2149-08-25 06:10:00 Physician Resident Progress Note
Chief Complaint: 69 year old female with MELD 32 EtOH cirrhosis c/b
   encephalopathy, ascites, portal hypertensive gastropathy, and grade II
   varices transferred to the MICU for encephalopathy and renal failure
   24 Hour Events:
   - The patient went into afib, heart rate to 130s, pressures stable. Was
   given 5mg of lopressor x 3 without change. Gave 5mg of dilatiazem with
   rates into the 70s and stable pressures
   - Hct 23, from 26 yesterday, gave 2u pRBC for colloid, [**Name (NI) 1850**] liver,
   no need for [**Name (NI) **] at this time per fellow. Post transfusion hct had
   appropriate bump
   - The patient was bradycardic to the 40's, pressures 70/40s, gave 500ml
   NS, 2u pRBC, 2u FFP, albumin, calcium gluconate 3g, glucagon 5g. A
   triple lumen R IJ and an A-line were placed
 EKG - At [**2149-8-24**] 04:15 PM
 BLOOD CULTURED - At [**2149-8-24**] 04:30 PM
 NASAL SWAB - At [**2149-8-24**] 04:30 PM
 ULTRASOUND - At [**2149-8-24**] 04:45 PM
   abd
 BLOOD CULTURED - At [**2149-8-24**] 05:15 PM
 URINE CULTURE - At [**2149-8-24**] 06:00 PM
 EKG - At [**2149-8-24**] 06:25 PM
 MULTI LUMEN - START [**2149-8-25**] 12:00 AM
 ARTERIAL LINE - START [**2149-8-25**] 01:00 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2149-8-24**] 06:50 PM
   Diltiazem - [**2149-8-24**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-25**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.3
C (95.5
   HR: 83 (47 - 128) bpm
   BP: 110/59(75) {83/44(57) - 114/62(79)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
    CVP: 32 (30 - 32)mmHg
   Total In:
                                                                  3,130 mL
                                                                  1,270 mL
   PO:
   TF:
                                                                    230 mL
   IVF:
                                                                  1,615 mL
                                                                    466 mL
   Blood products:
                                                                  1,095 mL
                                                                    804 mL
   Total out:
                                                                  1,115 mL
                                                                    810 mL
   Urine:
                                                                     15 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,015 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Responsive to verbal and painful stimuli
   Icteric
   Regular rate and rhythm, without rubs, gallops II/VI systolic murmur,
   AS
   Clear to auscultation bilateral
   Soft, nontender, mild distension, positive bowel sounds
   Ext warm, LE edema
   Labs / Radiology
   47 K/uL
   8.9 g/dL
   130 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   74 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2149-8-24**]  04:35 PM
                             [**2149-8-24**]  07:01 PM
                             [**2149-8-25**]  03:10 AM
   WBC
   8.3
   6.6
   Hct
   23.5
   27.8
   Plt
   49
   47
   Cr
   3.2
   3.4
   TropT
   0.08
   0.08
   Glucose
   126
   130
   Other labs: PT / PTT / INR:23.7/88.2/2.3, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:67/7.4,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:5.2 g/dL, LDH:181 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.6 mg/dL
   CXR
   An NGT is visualized which is coiled multiple times within the
   stomach and its distal tip projects over the expected region of the
   antrum of
   the stomach. Since the prior study, there is increased retrocardiac
   density,
   likely representing atelectasis, but pneumonia cannot be excluded.
   Slightly
   more prominent appearance to the pulmonary vessels including the region
   of the
   azygos vein may suggest some developing fluid overload. Clinical
   correlation
   is needed. CP angles remain sharply delineated.
   Liver u/s
   IMPRESSION:
   1. Slightly limited evaluation. However, apparently patent hepatic
   vasculature but with continued slow flow within the main portal vein.
   Previously described possible nonocclusive thrombus in the main portal
   vein
   wall is not seen on today's study.
   2. Diffuse echogenic liver consistent with cirrhosis.
   3. Mild-to-moderate amount of ascites.
   4. Cholelithiasis without evidence of acute cholecystitis.
   Assessment and Plan
   69 year old female with MELD 32 EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure
   .
   # Encephalopathy: Differential includes uremia/ARF, CVA, portal vein
   thrombosis, DVT, GIB, or infectious process including SBP, HAP, or UTI.
   SBP less likely given that the patient had a diagnostic paracentesis
   yesterday with WBC 261, PMN 24%, although this was on ciprofloxacin
   that was changed to ceftriaxone today.  In addition, CTH on [**8-21**] was
   negative and abdominal U/S on [**8-18**] that was negative for thrombosis.
   Most recent urine culture from [**8-20**] negative.  DVT less likely in
   setting of coagulopathy secondary to liver disease.
   - Follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine, octreotide and SPA as above
   - Continue ceftriaxone as above
   - Guaiac stools
   .
   # Afib with RVR: with relatively stable pressures. Attempted rate
   control with lopressor, unsuccessful. Then gave dilt with effect.
   Currently rate controlled. No use for anticoagulation at this time.
   Auto anticoagulated and recent GI bleed.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: likely related to dilt and lopressor doses.
   - monitor vitals
   .
   # Acute renal failure: Unclear etiology although differential includes
   HRS type 1 versus pre-renal azotemia in setting of large amounts of
   stool output.  ATN less likely as patient has not had episodes of
   hypotension. The patient has received HRS therapy with midodrine,
   octreotide, and albumin for two days with worsening renal function.
   Renal is following.
   - Follow renal recs
   - Continue albumin, midodrine, octreotide for HRS
   - Trend urine outputs, lytes q12h
   - Consider renal ultrasound if renal function does not improve
   .
   # Fever: Concerning for infectious process in conjunction with
   patient's worsening encephalopathy.  Given the patients AMS, she is
   also at high risk for aspiration pneumonia.
   - Infectious etiology work-up as above
   - Continue ceftriaxone for SBP for now pending cultures
   - Follow-up cultures
   .
   # ESLD: Patient with MELD 32 EtOH cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy.
   Transplant work-up complete per floor team.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Follow-up liver recs if any
   - Trend LFTs, coags
   .
   # Anemia: Patient recieved 2 unit PRBC yesterday. Bumped appropriately.
   - Trend hct daily, transfuse for hct<21 or if signs of end organ
   perfusion
   - Maintain active T+S
   - Guaiac stools
   .
   # Thrombocytopenia: Platelet count stable during admission.
   Thrombocytopenia likely secondary to splenic sequestration in setting
   of portal hypertension and ESLD.
   - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed.  Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI, nadolol
   .
   # Gastroparesis: Cont reglan prn if increased residuals.
   - Check residuals
   - KUB
   .
   FEN: TF, replete as necessary
   PPx: SCDs, PPI
   Access: PIV x2
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Held for residuals
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   18 Gauge - [**2149-8-24**] 04:30 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2149-08-25 09:27:00 Physician Attending Progress Note
Chief Complaint: Liver failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afib with RVR overnight -  rate controlled with dilt --> subbsequently
   bradycardic and hypotensive.
   Had central line, a-line placed --> pressors, glucagon, calcium.
   Now in afib with normal rate
   24 Hour Events:
 EKG - At [**2149-8-24**] 04:15 PM
 BLOOD CULTURED - At [**2149-8-24**] 04:30 PM
 NASAL SWAB - At [**2149-8-24**] 04:30 PM
 ULTRASOUND - At [**2149-8-24**] 04:45 PM
   abd
 BLOOD CULTURED - At [**2149-8-24**] 05:15 PM
 URINE CULTURE - At [**2149-8-24**] 06:00 PM
 EKG - At [**2149-8-24**] 06:25 PM
 MULTI LUMEN - START [**2149-8-25**] 12:00 AM
 ARTERIAL LINE - START [**2149-8-25**] 01:00 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2149-8-24**] 06:50 PM
   Diltiazem - [**2149-8-24**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Gastrointestinal: Diarrhea
   Integumentary (skin): Jaundice
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-25**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.3
C (95.5
   HR: 88 (47 - 128) bpm
   BP: 117/63(81) {83/44(57) - 117/63(81)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
   CVP: 32 (30 - 32)mmHg
   Total In:
                                                                  3,130 mL
                                                                  1,573 mL
   PO:
   TF:
                                                                    230 mL
   IVF:
                                                                  1,615 mL
                                                                    699 mL
   Blood products:
                                                                  1,095 mL
                                                                    804 mL
   Total out:
                                                                  1,115 mL
                                                                    810 mL
   Urine:
                                                                     15 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,015 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Harsh
   murmur @ apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, bowel sounds diminished
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, No(t) Oriented (to): to place,
   time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   47 K/uL
   130 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   74 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2149-8-24**]  04:35 PM
                             [**2149-8-24**]  07:01 PM
                             [**2149-8-25**]  03:10 AM
   WBC
   8.3
   6.6
   Hct
   23.5
   27.8
   Plt
   49
   47
   Cr
   3.2
   3.4
   TropT
   0.08
   0.08
   Glucose
   126
   130
   Other labs: PT / PTT / INR:23.7/88.2/2.3, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:67/7.4,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:5.2 g/dL, LDH:181 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   69 yo woman with liver failure, likely hepatorenal syndrome, with
   hypotension in setting of afib/rvr followed by tachycardia
   Encephalopathy:  still remains encephalopathic but slightly better
   today
   Hypotension/afib/bradycardia: now rate controlled in afib and not
   tachycardic.  Not requiring pressors
   ARF:  Cont midodrine, octreotide, and albumin
   Liver failure.  Cont lactulose, but will decrease
   Anemia: s/p 2 unit pRBCs
 follow Hct
   ICU Care
   Nutrition: tube feeds
 on hold due to high residuals
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   18 Gauge - [**2149-8-24**] 04:30 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2149-08-26 07:21:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 7930**] is a 69 year old female with MELD 32
   EtOH cirrhosis c/b encephalopathy, ascites, portal hypertensive
   gastropathy, and grade II varices transferred to the MICU for
   encephalopathy and renal failure.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2149-8-25**] 10:30 AM
   - goes into afib periodically. when in afib her pressure is stable, but
   when in sinus she is hypotensive
   -gave 500cc bolus and albumin today for low bp
   -tte ordered
   -pt c/o abd pain and we got KUB which showed no acute changes
   -cdiff neg
   -cultures NGTD
   -Cr continues to rise slowly
   -almost no uop and very bloody. flushed foley to confirm no clots. will
   repeat renal u/s tomorrow to confirm no obstruction
   -started on phoslo
   -run of ~20 beats NSVT s dropping pressures, resolved spontaneously, K
   and Mg appropriate and EKG s acute changes.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-26**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 59 (49 - 95) bpm
   BP: 109/50(70) {81/41(53) - 125/70(88)} mmHg
   RR: 15 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  3,913 mL
                                                                    147 mL
   PO:
   TF:
                                                                    387 mL
                                                                     27 mL
   IVF:
                                                                  2,333 mL
   Blood products:
                                                                  1,004 mL
   Total out:
                                                                    868 mL
                                                                      0 mL
   Urine:
                                                                     53 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                  3,045 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Gen: sedated, arousable, follows simple commands
   CV: systolic murmurs at apex and RUSB, diastolic murmur, regular rhythm
   Lungs CTAB
   Abd: soft, nontender
   Ext: pitting edema at feet
   Labs / Radiology
   52 K/uL
   9.1 g/dL
   110 mg/dL
   4.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   89 mg/dL
   110 mEq/L
   144 mEq/L
   28.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-8-24**]  04:35 PM
                             [**2149-8-24**]  07:01 PM
                             [**2149-8-25**]  03:10 AM
                             [**2149-8-25**]  05:44 PM
                             [**2149-8-26**]  02:45 AM
   WBC
   8.3
   6.6
   6.8
   8.2
   Hct
   23.5
   27.8
   28.0
   28.8
   Plt
   49
   47
   43
   52
   Cr
   3.2
   3.4
   3.8
   4.1
   TropT
   0.08
   0.08
   Glucose
   126
   130
   100
   110
   Other labs: PT / PTT / INR:27.6/54.0/2.7, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:62/6.9,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:5.4 g/dL, LDH:198 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with MELD 32 EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure
   .
   # Encephalopathy: Differential includes uremia/ARF, CVA, portal vein
   thrombosis, DVT, GIB, or infectious process including SBP, HAP, or UTI.
   SBP less likely given that the patient had a diagnostic paracentesis
   yesterday with WBC 261, PMN 24%, although this was on ciprofloxacin
   that was changed to ceftriaxone today.  In addition, CTH on [**8-21**] was
   negative and abdominal U/S on [**8-18**] that was negative for thrombosis.
   Most recent urine culture from [**8-20**] negative.  DVT less likely in
   setting of coagulopathy secondary to liver disease.
   - Follow up on cultures
   - Cont lactulose and rifaximin
   -  Continue midodrine, octreotide and SPA as above
   - Continue ceftriaxone (Day 3) as above, possible SBP
   - Guaiac stools
   .
   # Afib with RVR: with relatively stable pressures. Tolerating afib as
   long as normotensive. Has had multiple episodes of afib c rvr o/n but
   always normotensive.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80.
   - monitor vitals
   .
   # Acute renal failure: Unclear etiology although differential includes
   HRS type 1 versus pre-renal azotemia in setting of large amounts of
   stool output, more likely HRS as has not responded to fluids.  ATN less
   likely as patient has not had episodes of hypotension. The patient has
   received HRS therapy with midodrine, octreotide, and albumin for two
   days with worsening renal function. Renal is following.
   - Follow renal recs, may require HD soon
   -renal has been unable to get urine for sediment [**1-27**] no urine output.
   - Continue albumin, midodrine, octreotide for HRS
   - Trend urine outputs, lytes q12h
   - will repeat renal ultrasound if renal function does not improve
   -started on phoslo for elev phos
 now changed to sevalemer
   .
   # Fever: Concerning for infectious process in conjunction with
   patient's worsening encephalopathy.  Given the patients AMS, she is
   also at high risk for aspiration pneumonia.
   - Infectious etiology work-up as above
   - Continue ceftriaxone for SBP for now pending cultures
   - Follow-up cultures
   .
   # ESLD: Patient with MELD 32 EtOH cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy.
   Transplant work-up complete per floor team.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Follow-up liver recs if any
   - Trend LFTs, coags
   .
   # Anemia: Patient recieved 2 unit PRBC yesterday. Bumped appropriately.
   - Trend hct daily, transfuse for hct<21 or if signs of end organ
   perfusion
   - Maintain active T+S
   - Guaiac stools
   .
   # Thrombocytopenia: Platelet count stable during admission.
   Thrombocytopenia likely secondary to splenic sequestration in setting
   of portal hypertension and ESLD.
   - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed.  Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI, nadolol
   .
   # Gastroparesis: Cont reglan prn if increased residuals.
   - high residuals, TF held for now
   - will try upright positioning to help motility
   - KUB WNL
   .
   FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: as above, with husband
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2149-08-26 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   20 beat run of NSVT overnight
   BP stable overnight - has tended to be lower while in sinus brady then
   when in fib with higher rate
   TTE yesterday - TR, AI
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2149-8-25**] 10:30 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-26**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 58 (49 - 105) bpm
   BP: 105/54(71) {81/41(53) - 125/70(89)} mmHg
   RR: 15 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 30 (24 - 31)mmHg
   Total In:
                                                                  3,913 mL
                                                                    147 mL
   PO:
   TF:
                                                                    387 mL
                                                                     27 mL
   IVF:
                                                                  2,333 mL
   Blood products:
                                                                  1,004 mL
   Total out:
                                                                    868 mL
                                                                     20 mL
   Urine:
                                                                     53 mL
                                                                     20 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                  3,045 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   52 K/uL
   110 mg/dL
   4.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   89 mg/dL
   110 mEq/L
   144 mEq/L
   28.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-8-24**]  04:35 PM
                             [**2149-8-24**]  07:01 PM
                             [**2149-8-25**]  03:10 AM
                             [**2149-8-25**]  05:44 PM
                             [**2149-8-26**]  02:45 AM
   WBC
   8.3
   6.6
   6.8
   8.2
   Hct
   23.5
   27.8
   28.0
   28.8
   Plt
   49
   47
   43
   52
   Cr
   3.2
   3.4
   3.8
   4.1
   TropT
   0.08
   0.08
   Glucose
   126
   130
   100
   110
   Other labs: PT / PTT / INR:27.6/54.0/2.7, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:62/6.9,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:5.4 g/dL, LDH:198 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   69 yo woman with liver failure, likely hepatorenal syndrome, with
   hypotension in setting of afib/rvr followed by tachycardia
   Encephalopathy/liver failure:  continues to be encephalopathic.
   -liver following, greatly appreciate recs
   - restart lactulose 4 times daily
   -On ceftriaxone day 3 for ?SBP, renally dosed
   - continue rifaximin
    -to be presented at transplant conference today
   -continue to follow cultures
   -continue nadalol and PPI
   Hypotension/afib/bradycardia: now in sinus brady with stable blood
   pressure.  Will not treat afib unless symptomatic/hypotensive.
   ARF: renal fxn worsening, not responsive to fluids
   -  Cont midodrine, octreotide, and albumin.
   - renal following, greatly appreciate recs
   - pt will likely start RRT today or tomorrow
   - will also get renal u/s to r/o obstruction as she has not gotten one
   in several days
   Anemia: stable
   -will trend
   Gastroparesis: currently tube feeds off [**1-27**] high residuals
   - cont reglan, renally dosed.
   -will continue to try to get tube feeds on
   Ppx: pneumoboots and PPI
   Access RIJ, aline
   ICU Care
   Nutrition:
   Comments: tube feeds currently off
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2149-8-26**] 12:14 ------

2149-08-27 06:58:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 7930**] is a 69 year old female with MELD 32
   EtOH cirrhosis c/b encephalopathy, ascites, portal hypertensive
   gastropathy, and grade II varices transferred to the MICU for
   encephalopathy and renal failure.  Now on liver transplant list.
   24 Hour Events:
   -ABG at 11:15 am showed worsening metabolic acidosis
   -transplant meeting held, awaiting decision re: possibility of
   transplant
   -discussed with renal, will consider starting dialysis, but first want
   to know result of transplant meeting.
   -Repeat ABG in afternoon showed no change, 50 mEq of bicarb given.
   -Renal US showed no evidence of hydro.
   -Patient was approved for transplant during the meeting, but has never
   had a mammogram - will need eval for breast ca for insurance approval.
   -Followed up with renal, who recommend planning for line placement
   tomorrow morning, will start HD tomorrow.
   -Temporary dialysis line ordered for IR placement tomorrow.
   -Bicarb given four times - 50 mEq at 16:15, 19:45, 23:45, 05:45 for
   persistent metabolic acidosis.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2149-8-27**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-27**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 106 (54 - 106) bpm
   BP: 113/59(78) {90/42(57) - 125/72(90)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 28 (24 - 36)mmHg
   Total In:
                                                                    742 mL
                                                                    288 mL
   PO:
   TF:
                                                                     82 mL
   IVF:
                                                                    100 mL
                                                                     68 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    940 mL
                                                                     15 mL
   Urine:
                                                                     40 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/46/109/20/-6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.6 g/dL
   110 mg/dL
   4.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   102 mg/dL
   110 mEq/L
   146 mEq/L
   27.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2149-8-26**]  02:45 AM
                             [**2149-8-26**]  11:17 AM
                             [**2149-8-26**]  03:50 PM
                             [**2149-8-26**]  05:32 PM
                             [**2149-8-26**]  07:18 PM
                             [**2149-8-26**]  07:39 PM
                             [**2149-8-26**]  10:17 PM
                             [**2149-8-27**]  02:08 AM
                             [**2149-8-27**]  04:36 AM
                             [**2149-8-27**]  04:52 AM
   WBC
   8.2
   6.2
   Hct
   28.8
   26.9
   27.5
   Plt
   52
   46
   42
   Cr
   4.1
   4.4
   4.9
   TCO2
   19
   19
   21
   19
   20
   19
   22
   Glucose
   110
   114
   110
   Other labs: PT / PTT / INR:31.7/59.8/3.2, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:13/17, Alk Phos / T Bili:54/6.1,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.9 mmol/L, Albumin:5.4 g/dL, LDH:183 IU/L, Ca++:11.0 mg/dL,
   Mg++:2.8 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with MELD 40 (as of [**2149-8-26**]) EtOH cirrhosis c/b
   encephalopathy, ascites, portal hypertensive gastropathy, and grade II
   varices transferred to the MICU for encephalopathy and renal failure.
   Approved for transplant at meeting on [**2149-8-26**].
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine, octreotide and SPA as above
   - Continue ceftriaxone (Day 5) as above, possible SBP
   - Guaiac stools
   # ESLD: Patient with MELD 40 cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].  However, liver reported from
   the transplant meeting that she has never had a documented mammogram,
   and she will need breast cancer screening before a transplant will be
   approved by insurance.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.
   - Trend LFTs, coags
   - Address issue of breast cancer screening
 patient currently
   incapable of going for mammogram, will consider possibility of breast
   US following manual exam. Will discuss with liver team if sufficient.
   .
   # Acute renal failure: Unclear etiology although differential includes
   HRS type 1 versus pre-renal azotemia in setting of large amounts of
   stool output, more likely HRS as has not responded to fluids. ATN less
   likely as patient has not had episodes of hypotension. The patient has
   received HRS therapy with midodrine, octreotide, and albumin for three
   days with worsening renal function. Renal is following.  Persistently
   acidemic yesterday - given 4 amps bicarb to stabilize. Bicarb is 20.
   Creatinine worsening.
   -will give additional bicarb if worsening respiratory function
   -Continue to follow renal recs
   - Renal ultrasound [**2149-8-26**] showed no signs of obstructive pathology.
   -Plan for IR-placed temporary dialysis catheter today, followed by
   initiation of HD.
   -FFP or DDAVP to be given before procedure.
   -renal has been unable to get urine for sediment [**1-27**] no urine output.
   - Continue albumin, midodrine, octreotide for HRS
   - Trend urine outputs, lytes q12h
   -started on phoslo for elev phos
 now changed to sevalemer.
   .
   # Fever: Afebrile yesterday, but still concerned for possible
   infection.
   - Infectious etiology work-up as above
   - Continue ceftriaxone for SBP for now pending cultures
   .# Afib with RVR: with relatively stable pressures. Tolerating afib as
   long as normotensive. Normotensive yesterday, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80.
   - monitor vitals
   .
   # Anemia: Hematocrit stable, following CBC closely.
   - Trend hct daily, transfuse for hct<21 or if signs of end organ
   perfusion
   - Maintain active T+S
   - Guaiac stools
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
   - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed. Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI
   -nadolol d/c
ed [**1-27**] hypotension and bradycardia (has not been getting
   for two days anyway); will add back when stable
   .
   # Gastroparesis: Cont reglan prn if increased residuals.
   - high residuals, TF held for now
   - standing reglan
   - will try upright positioning to help motility
   - KUB WNL
   .
   FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, to get temporary dialysis catheter today
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-08-27 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increasing acidemia - 4 amps of bicarb given overnight
   Gettin HD line this AM to initiate dialysis
   24 Hour Events:
   Was discussed in transplant rounds yesterday and approved for listing
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2149-8-27**] 05:49 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-27**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 57 (54 - 106) bpm
   BP: 105/48(67) {90/42(57) - 125/72(90)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 28 (24 - 36)mmHg
   Total In:
                                                                    742 mL
                                                                    386 mL
   PO:
   TF:
                                                                     82 mL
   IVF:
                                                                    100 mL
                                                                     86 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    940 mL
                                                                     15 mL
   Urine:
                                                                     40 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/46/109/20/-6
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   42 K/uL
   110 mg/dL
   4.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   102 mg/dL
   110 mEq/L
   146 mEq/L
   27.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2149-8-26**]  02:45 AM
                             [**2149-8-26**]  11:17 AM
                             [**2149-8-26**]  03:50 PM
                             [**2149-8-26**]  05:32 PM
                             [**2149-8-26**]  07:18 PM
                             [**2149-8-26**]  07:39 PM
                             [**2149-8-26**]  10:17 PM
                             [**2149-8-27**]  02:08 AM
                             [**2149-8-27**]  04:36 AM
                             [**2149-8-27**]  04:52 AM
   WBC
   8.2
   6.2
   Hct
   28.8
   26.9
   27.5
   Plt
   52
   46
   42
   Cr
   4.1
   4.4
   4.9
   TCO2
   19
   19
   21
   19
   20
   19
   22
   Glucose
   110
   114
   110
   Other labs: PT / PTT / INR:31.7/59.8/3.2, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:13/17, Alk Phos / T Bili:54/6.1,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:1.9 mmol/L, Albumin:5.4 g/dL, LDH:183 IU/L, Ca++:11.0 mg/dL,
   Mg++:2.8 mg/dL, PO4:7.2 mg/dL
   Imaging: CXR: unchanged from yesterday
   Assessment and Plan
   69 yo woman with liver failure, likely hepatorenal syndrome, with
   hypotension in setting of afib/rvr followed by tachycardia
   Encephalopathy/liver failure:  being listed for transplant.  Needs
   breast CA screening as part of workup
   Hypotension/afib/bradycardia: blood pressure stable
   Fever: CTX day [**5-8**]
   ARF: getting HD line today and then will initiate HD.  Getting FFP
   pre-procedure.  Con midodrine and octreotide
   Anemia: stable
   Ppx: pneumoboots and PPI
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2149-08-28 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2149-8-27**] 06:02 PM
 INVASIVE VENTILATION - START [**2149-8-27**] 11:45 PM
   -Had line placement by IR late this afternoon, s/p 2 units FFP and
   DDAVP
   -For HD tomorrow AM
   -Liver recommended being more aggressive with tube feeds; Reglan QID;
   follow residuals closely; this afternoon, no residuals. Tube feeds
   restarted at 5pm. Held with GI bleed.
   -Repeat afternoon labs stable- platelets stable at 42. Still with
   metabolic acidosis and increasing gap to 21 (from 16); gave 50meq
   Bicarb at 6pm and drew ABG:
   -As per liver, increased midodrine and octreotide; OK to do breast exam
   and U/S appropriate areas for now as too unstable for diagnostic
   mammogram at this time.  Need to complete tomorrow AM so can get on
   liver transplant list.
   -at midnight, started having LGIB and UGIB, dropped sats, acidotic.
   Intubated. INR 2.9. Given FFP and blood. Hct 26.8, immediately after 1
   unit PRBC was 27.8 (but must factor in fact that little time to
   equilibrate and also receiving fluids/FFP so dilutional). Repeat Hct
   drawn this AM. Liver fellow came by. Since BP's stable in 120's to
   130's systolic, and Hcts not dramatically worsened, no indication to
   emergently scope.
   -Breast exam done. ?lipoma in left breast. Getting ultrasound of four
   quadrants
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-27**] 12:00 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2149-8-28**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-28**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.4
   HR: 51 (51 - 109) bpm
   BP: 107/53(72) {100/47(66) - 130/79(99)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
    CVP: 28 (28 - 28)mmHg
   Total In:
                                                                  1,996 mL
                                                                  1,769 mL
   PO:
   TF:
                                                                     45 mL
   IVF:
                                                                    273 mL
                                                                    110 mL
   Blood products:
                                                                  1,208 mL
                                                                  1,659 mL
   Total out:
                                                                     30 mL
                                                                    900 mL
   Urine:
                                                                     30 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.37/32/112/18/-5
   Ve: 7.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   9.2 g/dL
   126 mg/dL
   5.2 mg/dL
   18 mEq/L
   4.3 mEq/L
   112 mg/dL
   110 mEq/L
   150 mEq/L
   29.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-27**]  02:37 PM
                             [**2149-8-27**]  06:53 PM
                             [**2149-8-27**]  10:49 PM
                             [**2149-8-27**]  11:28 PM
                             [**2149-8-28**]  12:26 AM
                             [**2149-8-28**]  12:43 AM
                             [**2149-8-28**]  01:39 AM
                             [**2149-8-28**]  03:28 AM
                             [**2149-8-28**]  03:45 AM
                             [**2149-8-28**]  06:17 AM
   WBC
   6.0
   6.0
   5.1
   Hct
   26.4
   26.8
   27.8
   29.1
   Plt
   42
   43
   44
   63
   61
   Cr
   5.2
   5.2
   TCO2
   20
   22
   20
   19
   19
   Glucose
   121
   117
   126
   Other labs: PT / PTT / INR:23.9/51.2/2.3, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:14/18, Alk Phos / T Bili:51/6.5,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:5.4 g/dL, LDH:178 IU/L, Ca++:11.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:7.6 mg/dL
   Imaging: CXR ([**8-27**]):
   Relatively stable examination again demonstrating a diffuse
   interstitial edema-like pattern and extensive consolidation of the
   retrocardiac left lower lobe. Diagnostic considerations favor pneumonia
   in
   the setting. Correlate clinically.
   Microbiology: [**2149-8-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2149-8-25**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-23**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2149-8-20**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2149-8-20**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-20**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-18**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-13**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2149-8-12**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-FINAL INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with MELD 40 (as of [**2149-8-26**]) EtOH cirrhosis c/b
   encephalopathy, ascites, portal hypertensive gastropathy, and grade II
   varices transferred to the MICU for encephalopathy and renal failure.
   Approved for transplant at meeting on [**2149-8-26**].
   .
   #GI Bleed: Hct is 29 s/p 2 units PRBC; also s/p FFP (INR 2.9-->2.3).
   Has been hemodynamically stable, No major drops in Hct. GI did not feel
   emergent need for scope. Will most likely not do repeat scope if
   remains stable. EGD on [**2149-8-22**] showed portal hypertensive gastropathy
   and esophageal varices. Has not been on nadolol prophylaxis [**1-27**] unable
   to tolerate with BP.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -restart nadolol as tolerated with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   -no further FFP for coagulopathy
   .
   #Respiratory Failure: Patient intubated for acidosis and low oxygen
   sats. ? pneumonia on CXR. Will look for improvement with HD.
   -continue current vent settings, wean as tolerated
   -continue to follow ABGs
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine, octreotide and SPA as above
   - Stop ceftriaxone (Day 5); will confirm with liver that patients with
   PMN<250 or not growing unusual organism do not require 10 day course of
   treatment
   - Guaiac stools
   .
    # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR; Stopping ceftriaxone today as no
   further indication for SBP treatment; had been febrile 2 days ago
   -cdiff and cultures
   -vanc/cefepime/cipro (day 1)
   .
   # ESLD: Patient with MELD 40 cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].  However, liver reported from
   the transplant meeting that she has never had a documented mammogram,
   and she will need breast cancer screening before a transplant will be
   approved by insurance.  Likely will not be candidate for transplant in
   light of tenous respiratory/renal/?infectious status
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.
   - Trend LFTs, coags s/p FFP
   - Had breast exam yesterday, for diagnostic ultrasound today- needs
   this evaluation before final approval for transplant
   .
   # Acute renal failure: Unclear etiology although differential includes
   HRS type 1 versus pre-renal azotemia in setting of large amounts of
   stool output, more likely HRS as has not responded to fluids. ATN less
   likely as patient has not had episodes of hypotension. The patient has
   received HRS therapy with midodrine, octreotide, and albumin for four
   days with worsening renal function. Renal is following.  Persistently
   acidemic yesterday - given 4 amps bicarb to stabilize. Bicarb is 20.
   Creatinine worsening. Had IR placed line yesterday. For HD today.
   -will give additional bicarb if worsening respiratory function
   -Continue to follow renal recs
   - Renal ultrasound [**2149-8-26**] showed no signs of obstructive pathology.
   -renal has been unable to get urine for sediment [**1-27**] no urine output.
   - Continue albumin, midodrine, octreotide for HRS
   - Trend urine outputs, lytes q12h
   -started on phoslo for elev phos
 now changed to sevalemer.
   .
   .# Afib with RVR: with relatively stable pressures. Tolerating afib as
   long as normotensive. Normotensive, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80.
   - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
   - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed. Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI
   -nadolol d/c
ed [**1-27**] hypotension and bradycardia; will add back when
   stable, especially in light of GI bleed
   .
   # Gastroparesis: Cont reglan prn if increased residuals. Yesterday
   received tube feeds in evening b/c residuals low; however, tube feeds
   stopped when GI bleed
   - TF held pending resolution of GI bleed-will restart slowly; will give
   free water flushes in light of hypernatremia to 150
   - standing reglan
   - will try upright positioning to help motility
   - KUB WNL
   #hypernatremia: start 250 q 4 of free water
   # vaginal yeast infection: miconazole
   .
   FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, to get temporary dialysis catheter today
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- updated on hospital
   course last night
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-8-24**] 04:00 PM
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-08-28 10:13:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   GI Bleeding overnight, followed by drops in sats followed by intubation
   24 Hour Events:
 DIALYSIS CATHETER - START [**2149-8-27**] 06:02 PM
 INVASIVE VENTILATION - START [**2149-8-27**] 11:45 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-27**] 12:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2149-8-28**] 12:30 AM
   Other medications:
   per IICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-28**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.2
   HR: 52 (51 - 109) bpm
   BP: 115/55(76) {100/49(67) - 130/79(99)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.5 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 24 (24 - 28)mmHg
   Total In:
                                                                  1,996 mL
                                                                  1,993 mL
   PO:
   TF:
                                                                     45 mL
   IVF:
                                                                    273 mL
                                                                    234 mL
   Blood products:
                                                                  1,208 mL
                                                                  1,659 mL
   Total out:
                                                                     30 mL
                                                                    915 mL
   Urine:
                                                                     30 mL
                                                                     15 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                  1,078 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/32/112/18/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   61 K/uL
   126 mg/dL
   5.2 mg/dL
   18 mEq/L
   4.3 mEq/L
   112 mg/dL
   110 mEq/L
   150 mEq/L
   29.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-27**]  02:37 PM
                             [**2149-8-27**]  06:53 PM
                             [**2149-8-27**]  10:49 PM
                             [**2149-8-27**]  11:28 PM
                             [**2149-8-28**]  12:26 AM
                             [**2149-8-28**]  12:43 AM
                             [**2149-8-28**]  01:39 AM
                             [**2149-8-28**]  03:28 AM
                             [**2149-8-28**]  03:45 AM
                             [**2149-8-28**]  06:17 AM
   WBC
   6.0
   6.0
   5.1
   Hct
   26.4
   26.8
   27.8
   29.1
   Plt
   42
   43
   44
   63
   61
   Cr
   5.2
   5.2
   TCO2
   20
   22
   20
   19
   19
   Glucose
   121
   117
   126
   Other labs: PT / PTT / INR:23.9/51.2/2.3, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:14/18, Alk Phos / T Bili:51/6.5,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:5.4 g/dL, LDH:178 IU/L, Ca++:11.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
   69 yo woman with liver failure, likely hepatorenal syndrome, with
   hypotension in setting of afib/rvr followed by tachycardia
   GI Bleed: Likely from the varices - now stopped with FFP overnight.
   Respiratory Failure: [**Month (only) 11**] have desaturated do to volume overload, may
   also have aspirated.  Continue current vent settings.
   Encephalopathy/liver failure:  being listed for transplant.  Liver U/S
   today
   Renal Failure: HD today
   Hypotension/afib/bradycardia: currently in sinus
   Fever: Change antibiotics to vanc/cefepime/cipro
   Anemia: monitor Hcts
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2149-08-29 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2149-8-28**] 10:30 AM
 BLOOD CULTURED - At [**2149-8-28**] 10:35 AM
 STOOL CULTURE - At [**2149-8-28**] 10:45 AM
 SPUTUM CULTURE - At [**2149-8-28**] 11:00 AM
 ULTRASOUND - At [**2149-8-28**] 01:00 PM
   breast US
 URINE CULTURE - At [**2149-8-28**] 04:00 PM
   -got breast u/s, prelim read: There is no concerning breast mass
   demonstrated on either side on portable
   ultrasound examination. Final read pending.....
   -abx broadened from ceftriaxone to cefepime, cipro, vanc for ? pna
   based on xray
   -got dic labs, fibrinogen 66, gave [**Last Name (LF) **], [**First Name3 (LF) 116**] recheck in am
   -Cx pending, UA dirty, UCx pending
   -added free water per renal
   -may need fam mtg c liver team tomorrow
   -oozing blood from vagina after miconazole cream
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-28**] 12:00 PM
   Cefipime - [**2149-8-28**] 01:50 PM
   Vancomycin - [**2149-8-28**] 02:30 PM
   Ciprofloxacin - [**2149-8-28**] 03:45 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-29**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 56 (52 - 116) bpm
   BP: 105/50(66) {98/45(61) - 127/77(94)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.5 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 38 (23 - 38)mmHg
   Total In:
                                                                  4,823 mL
                                                                  2,039 mL
   PO:
   TF:
                                                                    115 mL
                                                                    165 mL
   IVF:
                                                                  1,712 mL
                                                                  1,032 mL
   Blood products:
                                                                  1,886 mL
                                                                    123 mL
   Total out:
                                                                  2,425 mL
                                                                     20 mL
   Urine:
                                                                     25 mL
                                                                     20 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,398 mL
                                                                  2,019 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/35/91/23/0
   Ve: 7 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   8.7 g/dL
   154 mg/dL
   4.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   91 mg/dL
   104 mEq/L
   144 mEq/L
   24.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2149-8-28**]  12:43 AM
                             [**2149-8-28**]  01:39 AM
                             [**2149-8-28**]  03:28 AM
                             [**2149-8-28**]  03:45 AM
                             [**2149-8-28**]  06:17 AM
                             [**2149-8-28**]  12:45 PM
                             [**2149-8-28**]  03:18 PM
                             [**2149-8-28**]  07:15 PM
                             [**2149-8-29**]  03:47 AM
                             [**2149-8-29**]  04:46 AM
   WBC
   5.1
   5.6
   5.8
   Hct
   29.1
   27.9
   26.9
   24.9
   Plt
   63
   61
   54
   43
   Cr
   5.2
   4.0
   4.3
   4.5
   TCO2
   20
   19
   19
   23
   24
   Glucose
   126
   128
   149
   154
   Other labs: PT / PTT / INR:26.2/49.8/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:45/5.8,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %,
   D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:85 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:5.4 g/dL, LDH:198 IU/L, Ca++:10.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**].
   .
   #GI Bleed: HCT continues to trend down slowly
 24.9 this morning.  Has
   been hemodynamically stable, No major drops in Hct. GI did not feel
   emergent need for scope. Will most likely not do repeat scope if
   remains stable.   Now with diffuse bruising and bleeding
 DIC labs
   drawn.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -restarted nadolol yesterday with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   -no further [**Date Range 1345**] for coagulopathy
   .
   #Respiratory Failure: Patient intubated for acidosis and low oxygen
   sats. ? pneumonia on CXR. Will look for improvement with HD.
   -continue current vent settings, wean as tolerated
   -continue to follow ABGs
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine, octreotide and SPA as above
   - Stop ceftriaxone (Day 5); will confirm with liver that patients with
   PMN<250 or not growing unusual organism do not require 10 day course of
   treatment
   - Guaiac stools
   .
    # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR; Stopping ceftriaxone today as no
   further indication for SBP treatment; had been febrile 2 days ago
   -cdiff and cultures
   -vanc/cefepime/cipro (day 1)
   .
   # ESLD: Patient with MELD 40 cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].  However, liver reported from
   the transplant meeting that she has never had a documented mammogram,
   and she will need breast cancer screening before a transplant will be
   approved by insurance.  Likely will not be candidate for transplant in
   light of tenous respiratory/renal/?infectious status
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.
   - Trend LFTs, coags s/p [**Date Range 1345**]
   - Had breast exam yesterday, for diagnostic ultrasound today- needs
   this evaluation before final approval for transplant
   .
   # Acute renal failure: Unclear etiology although differential includes
   HRS type 1 versus pre-renal azotemia in setting of large amounts of
   stool output, more likely HRS as has not responded to fluids. ATN less
   likely as patient has not had episodes of hypotension. The patient has
   received HRS therapy with midodrine, octreotide, and albumin for four
   days with worsening renal function. Renal is following.  Persistently
   acidemic yesterday - given 4 amps bicarb to stabilize. Bicarb is 20.
   Creatinine worsening. Had IR placed line yesterday. For HD today.
   -will give additional bicarb if worsening respiratory function
   -Continue to follow renal recs
   - Renal ultrasound [**2149-8-26**] showed no signs of obstructive pathology.
   -renal has been unable to get urine for sediment [**1-27**] no urine output.
   - Continue albumin, midodrine, octreotide for HRS
   - Trend urine outputs, lytes q12h
   -started on phoslo for elev phos
 now changed to sevalemer.
   .
   .# Afib with RVR: with relatively stable pressures. Tolerating afib as
   long as normotensive. Normotensive, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80.
   - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
   - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed. Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI
   -nadolol d/c
ed [**1-27**] hypotension and bradycardia; will add back when
   stable, especially in light of GI bleed
   .
   # Gastroparesis: Cont reglan prn if increased residuals. Yesterday
   received tube feeds in evening b/c residuals low; however, tube feeds
   stopped when GI bleed
   - TF held pending resolution of GI bleed-will restart slowly; will give
   free water flushes in light of hypernatremia to 150
   - standing reglan
   - will try upright positioning to help motility
   - KUB WNL
   #hypernatremia: start 250 q 4 of free water
   # vaginal yeast infection: miconazole
   .
   FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, to get temporary dialysis catheter today
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- updated on hospital
   course last night
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2149-8-28**] 11:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-08-29 11:13:00 Physician Attending Progress Note
Chief Complaint: Liver Dailure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Vaginal bleeding and oozing from line sites yesterday - fibrinogen of
   66.  Cryo given
   24 Hour Events:
 BLOOD CULTURED - At [**2149-8-28**] 10:30 AM
 BLOOD CULTURED - At [**2149-8-28**] 10:35 AM
 STOOL CULTURE - At [**2149-8-28**] 10:45 AM
 SPUTUM CULTURE - At [**2149-8-28**] 11:00 AM
 ULTRASOUND - At [**2149-8-28**] 01:00 PM
   breast US
 URINE CULTURE - At [**2149-8-28**] 04:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-28**] 12:00 PM
   Cefipime - [**2149-8-28**] 01:50 PM
   Vancomycin - [**2149-8-28**] 02:30 PM
   Ciprofloxacin - [**2149-8-28**] 03:45 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-29**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 56 (55 - 116) bpm
   BP: 106/54(70) {98/45(61) - 127/77(94)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 38 (23 - 38)mmHg
   Total In:
                                                                  4,845 mL
                                                                  2,797 mL
   PO:
   TF:
                                                                    115 mL
                                                                    258 mL
   IVF:
                                                                  1,734 mL
                                                                  1,367 mL
   Blood products:
                                                                  1,886 mL
                                                                    123 mL
   Total out:
                                                                  2,425 mL
                                                                     30 mL
   Urine:
                                                                     25 mL
                                                                     30 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                  2,767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.43/35/91/23/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 8050**] rash on abdomen
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   43 K/uL
   154 mg/dL
   4.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   91 mg/dL
   104 mEq/L
   144 mEq/L
   24.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2149-8-28**]  12:43 AM
                             [**2149-8-28**]  01:39 AM
                             [**2149-8-28**]  03:28 AM
                             [**2149-8-28**]  03:45 AM
                             [**2149-8-28**]  06:17 AM
                             [**2149-8-28**]  12:45 PM
                             [**2149-8-28**]  03:18 PM
                             [**2149-8-28**]  07:15 PM
                             [**2149-8-29**]  03:47 AM
                             [**2149-8-29**]  04:46 AM
   WBC
   5.1
   5.6
   5.8
   Hct
   29.1
   27.9
   26.9
   24.9
   Plt
   63
   61
   54
   43
   Cr
   5.2
   4.0
   4.3
   4.5
   TCO2
   20
   19
   19
   23
   24
   Glucose
   126
   128
   149
   154
   Other labs: PT / PTT / INR:26.2/49.8/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:45/5.8,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %,
   D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:85 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:5.4 g/dL, LDH:198 IU/L, Ca++:10.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   69 yo woman with liver failure, likely hepatorenal syndrome,
   respiratory failure.  Now on HD
   GI Bleed: No further bleeding overnight
   Respiratory Failure: Continue current vent settings.  Doubt she will be
   able to control her airway if extubated
   Encephalopathy/liver failure:  being listed for transplant.  Breast
   ultrasound negative
   Renal Failure: HD again today
   Hypotension/afib/bradycardia: currently in sinus brady
   Fever: Cont vanc/cefepime/cipro
   Anemia: monitor Hcts - continues to drift downward
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2149-8-28**] 11:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-30 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   received 1 unit of cryo and 1 unit ffp
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-28**] 12:00 PM
   Cefipime - [**2149-8-29**] 12:00 PM
   Ciprofloxacin - [**2149-8-29**] 04:00 PM
   Vancomycin - [**2149-8-29**] 04:30 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 54 (53 - 114) bpm
   BP: 104/51(68) {94/42(57) - 125/67(86)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 27 (23 - 31)mmHg
   Total In:
                                                                  4,967 mL
                                                                    557 mL
   PO:
   TF:
                                                                    788 mL
                                                                    278 mL
   IVF:
                                                                  2,092 mL
                                                                    139 mL
   Blood products:
                                                                    777 mL
   Total out:
                                                                  1,845 mL
                                                                     21 mL
   Urine:
                                                                     45 mL
                                                                     21 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,122 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/36/122/23/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Gen: Sedated, intubated
   CV: regular rate
   Resp: diffuse rhonchi b/l
   Abd: soft, NT, ND
   Ext: 1+pitting edema b/l
   Skin: diffuse bruising, +petechia of oral mucosa, bleeding around line
   sites
   Labs / Radiology
   48 K/uL
   8.9 g/dL
   149 mg/dL
   3.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   70 mg/dL
   101 mEq/L
   140 mEq/L
   26.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-28**]  06:17 AM
                             [**2149-8-28**]  12:45 PM
                             [**2149-8-28**]  03:18 PM
                             [**2149-8-28**]  07:15 PM
                             [**2149-8-29**]  03:47 AM
                             [**2149-8-29**]  04:46 AM
                             [**2149-8-29**]  11:26 AM
                             [**2149-8-29**]  10:01 PM
                             [**2149-8-30**]  03:57 AM
                             [**2149-8-30**]  04:16 AM
   WBC
   5.6
   5.8
   6.3
   5.1
   Hct
   27.9
   26.9
   24.9
   26.5
   25.9
   26.3
   Plt
   54
   43
   44
   48
   Cr
   4.0
   4.3
   4.5
   3.8
   3.8
   TCO2
   19
   23
   24
   26
   Glucose
   128
   149
   154
   123
   149
   Other labs: PT / PTT / INR:27.5/52.3/2.7, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**12-12**], Alk Phos / T Bili:45/5.8,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %,
   D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:91 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:5.4 g/dL, LDH:198 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Microbiology:
   [**2149-8-28**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2149-8-28**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2149-8-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-25**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-23**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-FINAL INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], but now intubated, overall status
   worsening.
   .
   #GI Bleed/DIC: s/p 1 unit cryo, 1 unit FFP. HCT remains stable.  Has
   been hemodynamically stable, No major drops in Hct. Now with diffuse
   bruising and bleeding, in DIC.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -restarted nadolol with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   .
   #Respiratory Failure: Patient intubated for acidosis and low oxygen
   sats. ? pneumonia on CXR. Will look for improvement with HD.
   -continue current vent settings, wean as tolerated
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**3-1**]) empirically for pneumonia
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine and SPA as above; octreotide discontinued as per
   hepatology (unlikely HRS)
   .
   # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR
   -follow up on pending cultures
   -vanc/cefepime/cipro (day 3)
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].  Breast US showed no evidence
   of suspicious masses, though this is admittedly a sub-optimal screening
   test.  Now has a place on transplant list.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend LFTs, coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo
   until reach that goal)
   .
   # Acute renal failure:  Now receiving dialysis.  Failure differential
   included HRS type 1 versus pre-renal azotemia in setting of large
   amounts of stool output vs. ATN. The patient had been receiving HRS
   therapy with midodrine, octreotide, and albumin with worsening renal
   function. Octreotide discontinued, as felt to be an ATN etiology. Renal
   is following.
   -Continue to follow renal recs
   - Renal ultrasound [**2149-8-26**] showed no signs of obstructive pathology.
   - Continue midodrine only
   - Trend lytes q12h
   -started on phoslo for elev phos
 now changed to sevalemer.
   .
   .# Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80. Will also be mindful of hemodynamic instability in
   setting of GI bleed.
    - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed. Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI
   - nadolol restarted with holding parameters.
   .
   # Gastroparesis: Cont reglan prn if increased residuals.
   - On tube feeds
   - PRN reglan
   - will try upright positioning to help motility
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, temporary dialysis cath
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-8-30**] 12:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2149-08-31 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -GI: rec dc'ing octreotide, cont midodrine, tranfuse fibrinogen to >125
   -PM fibrinogen 128. No further cryo given. Hcts stable
   -Patient noted to have pink blood-tinged secretions from ET tube; no
   frank blood; no respiratory distress; HCT stable, hemodynamically
   stable
   -cefepime redosed to 500mg daily. extra dose of vanco given as per
   renal and pharmacy
   -700 cc dialyzed off yesterday
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-8-28**] 12:00 PM
   Cefipime - [**2149-8-30**] 01:45 PM
   Ciprofloxacin - [**2149-8-30**] 05:35 PM
   Vancomycin - [**2149-8-30**] 11:24 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-30**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-31**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 54 (53 - 119) bpm
   BP: 106/55(72) {88/42(56) - 118/69(85)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 19 (19 - 30)mmHg
   Total In:
                                                                  2,698 mL
                                                                    223 mL
   PO:
   TF:
                                                                    962 mL
                                                                     77 mL
   IVF:
                                                                    906 mL
                                                                     96 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  1,587 mL
                                                                     20 mL
   Urine:
                                                                     87 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,111 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/38/98.[**Numeric Identifier 500**]/27/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases, Rhonchorous: occasional in upper lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   32 K/uL
   8.9 g/dL
   127 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   48 mg/dL
   103 mEq/L
   141 mEq/L
   27.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2149-8-28**]  07:15 PM
                             [**2149-8-29**]  03:47 AM
                             [**2149-8-29**]  04:46 AM
                             [**2149-8-29**]  11:26 AM
                             [**2149-8-29**]  10:01 PM
                             [**2149-8-30**]  03:57 AM
                             [**2149-8-30**]  04:16 AM
                             [**2149-8-30**]  08:15 PM
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
   WBC
   5.6
   5.8
   6.3
   5.1
   4.7
   Hct
   26.9
   24.9
   26.5
   25.9
   26.3
   26.0
   27.0
   Plt
   54
   43
   44
   48
   32
   Cr
   4.3
   4.5
   3.8
   3.8
   2.7
   2.9
   TCO2
   24
   26
   29
   Glucose
   149
   154
   123
   149
   133
   127
   Other labs: PT / PTT / INR:28.7/56.5/2.8, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**8-15**], Alk Phos / T Bili:83/6.3,
   Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %, Eos:1.1 %,
   D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:111 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:4.8 g/dL, LDH:161 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR: The feeding tube continues to be coiled in the stomach
   with the tip
   probably in the proximal duodenum. The heart continues to be moderately
   enlarged. There is no significant change in the ET tube, left
   subclavian
   line, or right IJ line. Bilateral pleural effusions and hazy bilateral
   vasculature are again seen consistent with fluid overload.
   Microbiology: [**2149-8-28**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2149-8-28**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2149-8-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-25**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-24**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-23**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-FINAL INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], but now intubated, overall status
   worsening.
   .
   #GI Bleed/DIC: s/p 1 unit cryo, 1 unit FFP yesterday. HCT remains
   stable.  Has been hemodynamically stable, No major drops in Hct. Now
   with diffuse bruising and bleeding, in DIC.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -give cryo for fibrinogen <125
   -restarted nadolol with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   .
   #Respiratory Failure: Patient intubated for inability to protect airway
   and low oxygen sats. ? pneumonia on CXR.
   -continue current vent settings, will try psv today
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**4-1**]) empirically for pneumonia
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine and SPA as above; octreotide discontinued as per
   hepatology (unlikely HRS)
   .
   # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR
   -follow up on pending cultures
   -vanc/cefepime/cipro (day 4)
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].  Breast US showed no evidence
   of suspicious masses, though this is admittedly a sub-optimal screening
   test.  Now has a place on transplant list.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend LFTs, coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo
   until reach that goal)
   .
   # Acute renal failure:  Now receiving dialysis.  Failure differential
   included HRS type 1 versus pre-renal azotemia in setting of large
   amounts of stool output vs. ATN. The patient had been receiving HRS
   therapy with midodrine, octreotide, and albumin with worsening renal
   function. Octreotide discontinued, as felt to be an ATN etiology. Renal
   is following.
   -Continue to follow renal recs
   - Renal ultrasound [**2149-8-26**] showed no signs of obstructive pathology.
   - Continue midodrine only
   - Trend lytes q12h
   -on sevelamer.
   .
   .# Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80. Will also be mindful of hemodynamic instability in
   setting of GI bleed.
   - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets
   .
   # Hematochezia: Likely secondary to either internal hemorrhoids or
   rectal variceal bleed. Hematocrit has been stable and without further
   evidence of bleeding.
   - Trend hct as above
   - Continue PPI
   - nadolol restarted with holding parameters.
   .
   # Gastroparesis: Cont reglan prn if increased residuals.
   - On tube feeds
   - PRN reglan
   - will try upright positioning to help motility
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, temporary dialysis cath
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She remains sedated on low levels of propafol with good stool output on
   lactulose therapy. Her mental status ( off sedation) still precludes
   extubation but we will transition to CPAP/ PSV today provided
   secretions are not a major issue. HD to continue and she is tolerating
   tube feeds well. She has not needed massive transfusion for ongoing GI
   blood loss more attributable to low grade DIC.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2149-8-31**] 15:17 ------

2149-09-01 07:32:00 Physician Resident Progress Note
Chief Complaint: 69 year old female with severe EtOH cirrhosis c/b
   encephalopathy, ascites, portal hypertensive gastropathy, and grade II
   varices transferred to the MICU for encephalopathy and renal failure.
   Approved for transplant at meeting on [**2149-8-26**], now intubated.  Surgery
   note yesterday reports #1 on OLT.
   24 Hour Events:
   -GI says less likely HRS as nminimal ascites. they will consider d/c
   midodrine tomorrow. They would also like a cardiology consult to
   optimize preoperative status (?what can we do to minimize operative
   risks re afib)
   -renal recs: no HD today, perhaps HD tomorrow, more likely tuesday
   -still oozing from gums
   -got 1U cryo for fibrinogen of 109. goal 125. should recheck tomorrow
   -surgery left note recommending cards consult pre-op.  Also mentioned
   #1 on list?  Need to follow this up.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-8-30**] 05:35 PM
   Vancomycin - [**2149-8-30**] 11:24 PM
   Cefipime - [**2149-8-31**] 12:15 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-31**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-1**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 60 (53 - 60) bpm
   BP: 109/54(73) {95/41(59) - 119/64(82)} mmHg
   RR: 13 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 29 (14 - 45)mmHg
   Total In:
                                                                  2,395 mL
                                                                    649 mL
   PO:
   TF:
                                                                    960 mL
                                                                    289 mL
   IVF:
                                                                    425 mL
                                                                     73 mL
   Blood products:
                                                                    350 mL
                                                                     88 mL
   Total out:
                                                                     67 mL
                                                                    680 mL
   Urine:
                                                                     67 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                  2,328 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 586 (432 - 617) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 15 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/42/104/25/0
   Ve: 6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Sedated, minimally responsive.  Persistent bruising and edema of neck.
   Moderate air movement bilaterally, mild rales bilaterally
   RRR, no audible murmurs
   Abdomen soft, non-distended, +BS
   1+ pedal edema
   Labs / Radiology
   45 K/uL
   9.3 g/dL
   136 mg/dL
   3.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   58 mg/dL
   104 mEq/L
   140 mEq/L
   29.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2149-8-29**]  10:01 PM
                             [**2149-8-30**]  03:57 AM
                             [**2149-8-30**]  04:16 AM
                             [**2149-8-30**]  08:15 PM
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
   WBC
   5.1
   4.7
   5.2
   6.8
   Hct
   25.9
   26.3
   26.0
   27.0
   28.1
   29.5
   Plt
   48
   32
   34
   45
   Cr
   3.8
   3.8
   2.7
   2.9
   3.1
   3.3
   TCO2
   26
   29
   27
   27
   Glucose
   123
   149
   133
   127
   138
   136
   Other labs: PT / PTT / INR:26.6/56.8/2.6, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**8-15**], Alk Phos / T Bili:77/5.9, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:109 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:162 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.  Surgery note
   yesterday reports #1 on OLT.
   .
   #GI Bleed/DIC: receiving cryo to keep fibrinogen above 125 - received 1
   unit yesterda.  Has been hemodynamically stable, but with diffuse
   bruising and mild bleeding.  No major drops in Hct.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -restarted nadolol with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   -GI recommended DC-ing octreotide
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].    Now has a place on
   transplant list.  Need to discuss with hepatology to determine exact
   place on list.
   - Continue lactulose, rifaxamin, midodrine, octreotide, and albumin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend LFTs, coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo
   until reach that goal)
   - cards consult to evalute pre-op?
   .
   #Respiratory Failure: Patient intubated for acidosis and low oxygen
   sats. ? pneumonia on CXR. Will look for improvement with HD.
   -continue current vent settings, wean as tolerated
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**4-1**]) empirically for pneumonia
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   - Continue midodrine and SPA as above; octreotide discontinued as per
   hepatology (unlikely HRS)
   .
   # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR
   -follow up on pending cultures
   -vanc/cefepime/cipro (day 4)
   .
   # Acute renal failure:  Now receiving dialysis.  Failure differential
   included HRS type 1 versus pre-renal azotemia in setting of large
   amounts of stool output vs. ATN. The patient had been receiving HRS
   therapy with midodrine, octreotide, and albumin with worsening renal
   function. Octreotide discontinued, as felt to be an ATN etiology. Renal
   is following.
   -Possible HD today, maybe tomorrow.  Will f/u with renal recs.
   - Continue midodrine only
   - Trend lytes q12h
   -started on phoslo for elev phos
 now changed to sevalemer.
   .
   .# Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes.
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80. Will also be mindful of hemodynamic instability in
   setting of GI bleed.
    - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets
   .
   # Gastroparesis:
   - On tube feeds with Dophoff
   - will try upright positioning to help motility
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, temporary dialysis cath
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-1**] 02:54 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She will need to have much improved mentation to allow us safe attempts
   at extubation. NH3 level to be tracked with lactulose therapy. There
   are no concerns for ongoing GI blood loss at this time and tube feeds
   have been advanced without difficulty. She will need continued HD per
   Renal recs.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2149-9-1**] 18:38 ------

2149-09-02 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -this morning got 1U cryo for fibrinogen of 109. goal 125.  (as above).
   should recheck tomorrow
   Renal recs:
   -RF likely due to ATN - agree with stopping midodrine.
   -Continue abx at current doses
   -check vanco trough next HD
   -HD planned for tomorrow morning
   Liver recs:
   -DC midodrine, unlikely HRS
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-30**] 11:24 PM
   Cefipime - [**2149-9-1**] 04:15 PM
   Ciprofloxacin - [**2149-9-1**] 04:48 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-1**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 57 (54 - 57) bpm
   BP: 102/50(66) {88/42(57) - 109/55(73)} mmHg
   RR: 12 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 23 (10 - 26)mmHg
   Total In:
                                                                  2,535 mL
                                                                    559 mL
   PO:
   TF:
                                                                    961 mL
                                                                    292 mL
   IVF:
                                                                    509 mL
                                                                     62 mL
   Blood products:
                                                                    350 mL
                                                                     95 mL
   Total out:
                                                                  1,345 mL
                                                                      0 mL
   Urine:
                                                                     95 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                  1,190 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 599 (425 - 599) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   31 K/uL
   9.2 g/dL
   131 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   67 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2149-8-30**]  03:57 AM
                             [**2149-8-30**]  04:16 AM
                             [**2149-8-30**]  08:15 PM
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
   WBC
   5.1
   4.7
   5.2
   6.8
   6.0
   Hct
   26.3
   26.0
   27.0
   28.1
   29.5
   28.9
   Plt
   48
   32
   34
   45
   31
   Cr
   3.8
   2.7
   2.9
   3.1
   3.3
   3.7
   TCO2
   26
   29
   27
   27
   Glucose
   149
   133
   127
   138
   136
   131
   Other labs: PT / PTT / INR:26.1/60.4/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/5.7, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:101 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.9 mg/dL
   Microbiology: no new culture data. bcx pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   .
   #GI Bleed: receiving cryo to keep fibrinogen above 125 - received 1
   unit yesterday.  Has been hemodynamically stable, but with diffuse
   bruising and mild bleeding.  No major drops in Hct.
   - trend Q8 Hcts; Transfuse for Hct <25 or hemodynamic instability
   -restarted nadolol with holding parameters
   -continue IV PPI
   -Maintain active type and screen
   -GI recommended DC-ing octreotide
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**].    Now has a place on
   transplant list.  Need to discuss with hepatology to determine exact
   place on list.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo until
   reach that goal). Got cryo this am
   - cards consult to evalute pre-op?
   .
   #Respiratory Failure: Patient intubated for acidosis and low oxygen
   sats. ? pneumonia on CXR. Will look for improvement with HD.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite fact that propofol off since this AM)
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**5-1**]) empirically for pneumonia. Give 500mg
   vanc after HD today
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia.  Also possible infectious component, but she has been afebrile
   with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   -wean sedation prn
   .
   # Elevated lactate/Hypothermia- Concern for infection, unclear source,
   but possibly [**1-27**] infiltrate on CXR
   -lactate trended down
   -follow up on pending cultures
   -vanc/cefepime/cipro (day 5) empiric for hap
   -check vanc trough post HD and redose as appropriate
   .
   # Acute renal failure:  Now receiving dialysis.  Failure differential
   included HRS type 1 versus pre-renal azotemia in setting of large
   amounts of stool output vs. ATN. The patient had been receiving HRS
   therapy with midodrine, octreotide, and albumin with worsening renal
   function. Octreotide discontinued, as felt to be an ATN etiology. Renal
   is following.
   -HD today
   -on sevelamer.
   .
   # Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes.
   - cards consult to evalute pre-op?
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Hypotension/bradycardia: sometimes goes into sinus brady after
   breaking from afib. have been bolusing gently for hypotension.
   Tolerating SPBs >80. Will also be mindful of hemodynamic instability in
   setting of GI bleed.
    - monitor vitals
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets
   .
   # Gastroparesis:
   - On tube feeds with Dophoff
   - will try upright positioning to help motility
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: PIV x2, temporary dialysis cath
    Code: Full (confirmed)
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
    Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-2**] 03:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-09-02 12:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver Failure, Acute renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fibrinogen yesterday
   24 Hour Events:
   Getting HD currently
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-30**] 11:24 PM
   Cefipime - [**2149-9-1**] 04:15 PM
   Ciprofloxacin - [**2149-9-1**] 04:48 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-1**] 08:40 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-2**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 58 (54 - 60) bpm
   BP: 92/46(60) {88/42(57) - 109/55(72)} mmHg
   RR: 16 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 18 (10 - 26)mmHg
   Total In:
                                                                  2,535 mL
                                                                  1,332 mL
   PO:
   TF:
                                                                    961 mL
                                                                    493 mL
   IVF:
                                                                    509 mL
                                                                     89 mL
   Blood products:
                                                                    350 mL
                                                                    400 mL
   Total out:
                                                                  1,345 mL
                                                                      0 mL
   Urine:
                                                                     95 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                  1,190 mL
                                                                  1,332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 546 (425 - 599) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   31 K/uL
   131 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   67 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2149-8-30**]  03:57 AM
                             [**2149-8-30**]  04:16 AM
                             [**2149-8-30**]  08:15 PM
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
   WBC
   5.1
   4.7
   5.2
   6.8
   6.0
   Hct
   26.3
   26.0
   27.0
   28.1
   29.5
   28.9
   Plt
   48
   32
   34
   45
   31
   Cr
   3.8
   2.7
   2.9
   3.1
   3.3
   3.7
   TCO2
   26
   29
   27
   27
   Glucose
   149
   133
   127
   138
   136
   131
   Other labs: PT / PTT / INR:26.1/60.4/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/5.7, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:101 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   #GI Bleed: currently stable.got cryo yesterday
   # ESLD: Liver team following.  Listed for transplant
   #Respiratory Failure: Doing well on current settings.  Will not
   extubate given encephalopathy.  Cont vanc/cefepime/cipro (day [**5-1**])
   # Acute renal failure:  HD today
   #Hypotension: BP currently stable
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-2**] 03:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 33 minutes
   Patient is critically ill

2149-09-03 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt inactivated from transplant list; family unaware; hope to have Dr.
   [**Last Name (STitle) 416**] in to speak with family tomorrow
   -Pt hypotensive in the evening with MAPs 55-60. Bolused 500cc x 2 (only
   got 100cc off in dialysis). No response to fluids. Got blood cultures.
   Started neo with good effect. Pt also with "grimacing," biting ET tube.
   She was restarted on propofol. Given morphine 1mg IV b/c of nursing
   concern over pain. Maps in 70's-80's.
   -Had HD yesterday. renal wants vanco dosed by level.
   -Cards consulted for pre-op eval. will come by today.
   -had bleeding around flexiseal (looked like it was from hemorrhoids,
   BRBPR) and at IJ site. gave two units FFP. Hct stable. Coags and
   fibrinogen stable.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2149-9-2**] 12:00 PM
   Vancomycin - [**2149-9-2**] 02:00 PM
   Ciprofloxacin - [**2149-9-2**] 04:00 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-3**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 60 (55 - 129) bpm
   BP: 111/50(71) {77/37(50) - 135/69(91)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 19 (14 - 76)mmHg
   Total In:
                                                                  4,582 mL
                                                                    450 mL
   PO:
   TF:
                                                                    963 mL
                                                                    275 mL
   IVF:
                                                                  1,691 mL
                                                                    175 mL
   Blood products:
                                                                  1,189 mL
   Total out:
                                                                    130 mL
                                                                     25 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,452 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 480 (350 - 600) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 5.4 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   29 K/uL
   8.7 g/dL
   123 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   49 mg/dL
   101 mEq/L
   140 mEq/L
   26.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
                             [**2149-9-2**]  05:02 PM
                             [**2149-9-2**]  08:14 PM
                             [**2149-9-3**]  02:51 AM
   WBC
   4.7
   5.2
   6.8
   6.0
   7.6
   Hct
   27.0
   28.1
   29.5
   28.9
   26.3
   28.2
   26.8
   Plt
   32
   34
   45
   31
   57
   29
   Cr
   2.9
   3.1
   3.3
   3.7
   2.9
   TCO2
   29
   27
   27
   Glucose
   127
   138
   136
   131
   123
   Other labs: PT / PTT / INR:21.4/48.1/2.0, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:149 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.9 mg/dL
   Imaging: cxr:
   Compared to the prior study, there is no significant change in the ET
   tube,
   right IJ line, left double-lumen catheter, feeding tube, bilateral
   effusions,
   or dense retrocardiac opacity.
   Microbiology: [**2149-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2149-9-2**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2149-8-28**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2149-8-28**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2149-8-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.  Need to discuss with
   hepatology and Dr. [**Last Name (STitle) 416**] further. Family not yet aware.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo until
   reach that goal).
   - cards consult to evalute pre-op at their convenience
   .
   #GI Bleed/DIC: receiving cryo to keep fibrinogen above 125 - received 1
   unit yesterday.  Has been hemodynamically stable, but with diffuse
   bruising and mild bleeding, including rectally, vaginally, from lines,
   and from respiratory secretions.  No major drops in Hct.
   -fibrinogen >125 this AM, no need for cryo. continue to check daily
   fibrinogen
   - trend Q12 Hcts; Transfuse for Hct <25 or hemodynamic instability
   - nadolol with holding parameters (has not been given in days [**1-27**] low
   BP's)
   -low platelets this morning, will give bag of platelets today
   -continue IV PPI
   -Maintain active type and screen
   .
   #Hypotension: Pt with MAPs in low 50's this AM. Not responsive to fluid
   boluses. Started on neo yesterday with good effect.
   -hypotension developed after HD
 will consider whether to switch to
   CVVH.
   -restart midodrine today, attempt to wean from neo.
   -sent blood cultures.
   .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite fact that propofol off since this AM).  Minimal secretions
   overnight.
   -no plan for imminent extubation
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**6-1**]) empirically for pneumonia. dosing
   renally (vanco after HD)
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   -pt started waking up yesterday and biting on ET tube, grimacing, so
   propofol restarted. Also received 1mg morphine.
   .
   # Acute renal failure:  Now receiving dialysis.  Likely [**1-27**] atn.
   Octreotide and midodrine discontinued, as felt to be an ATN etiology.
   Renal is following.
   -HD today- may need to talk about transitioning to CVVH
   .
   # Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes.
   - cards will see today
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Lower Extremity Edema: continue to follow. Consider LENIs if
   worsening as pt is at high risk of DVT. Pneumoboots on.
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets; now plt=29 and bleeding. will give bag of platelets
   today.
   .
   # Gastroparesis:
   - On tube feeds with Dopoff
   - will try upright positioning to help motility
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF, replete as necessary
   .
   PPx: SCDs, PPI
   Access: IJ, temporary dialysis cath
    Code: Full (confirmed)
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
    Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-3**] 04:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:   regular communication with family.
   Code status: Full code
   Disposition:  ICU

2149-09-03 11:17:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Acute renal failure, respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on neosynephrine yesterday - hypotensive post-HD
   Propofol restarted [**1-27**] pt biting on ETT
   24 Hour Events:
   Seen by cardiology for pre-op eval
   History obtained from Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2149-9-2**] 12:00 PM
   Vancomycin - [**2149-9-2**] 02:00 PM
   Ciprofloxacin - [**2149-9-2**] 04:00 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-3**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-3**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 56 (56 - 129) bpm
   BP: 105/48(67) {77/37(50) - 135/69(91)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 19 (14 - 76)mmHg
   Total In:
                                                                  4,582 mL
                                                                    734 mL
   PO:
   TF:
                                                                    963 mL
                                                                    442 mL
   IVF:
                                                                  1,691 mL
                                                                    292 mL
   Blood products:
                                                                  1,189 mL
   Total out:
                                                                    130 mL
                                                                     40 mL
   Urine:
                                                                     30 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,452 mL
                                                                    694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (350 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   29 K/uL
   123 mg/dL
   2.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   49 mg/dL
   101 mEq/L
   140 mEq/L
   26.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2149-8-31**]  04:07 AM
                             [**2149-8-31**]  04:22 AM
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
                             [**2149-9-2**]  05:02 PM
                             [**2149-9-2**]  08:14 PM
                             [**2149-9-3**]  02:51 AM
   WBC
   4.7
   5.2
   6.8
   6.0
   7.6
   Hct
   27.0
   28.1
   29.5
   28.9
   26.3
   28.2
   26.8
   Plt
   32
   34
   45
   31
   57
   29
   Cr
   2.9
   3.1
   3.3
   3.7
   2.9
   TCO2
   29
   27
   27
   Glucose
   127
   138
   136
   131
   123
   Other labs: PT / PTT / INR:21.4/48.1/2.0, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:149 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   #GI Bleed: does have bleeding from line site and around flexiseal -
   transfuse 6pack plts
   # ESLD: Liver team following.  Will restart midodrine.  Stooling well
   to lactulose.  Cont rifaxamin.
   #Respiratory Failure: On minimal vent settings but profoundly
   encephalopathic, will remain intubated given encephalopathyCont
   vanc/cefepime/cipro (day [**6-1**])
   # Acute renal failure:  HD per renal
   #Hypotension: Cont neo as needed, starting octreotide
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-3**] 04:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2149-09-04 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -nadolol DC-ed for now, as currently on pressors.
   -got xtra dose vanc
   -gave 1U FFP for INR of 2.0
   -hepatology really would like CVVH as had high func status until
   recently
   -renal: will consider CVVH tomorrow if still on pressors
   -NGT clogged- now flushing well as per nursing and no need to replace
   -cards will consider right heart cath if otherwise ok for surgery
   -still on neo, tried to wean unsuccessfully
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-9-2**] 04:00 PM
   Cefipime - [**2149-9-3**] 12:00 PM
   Vancomycin - [**2149-9-3**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-3**] 07:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-4**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 55 (55 - 62) bpm
   BP: 110/47(68) {93/40(58) - 139/66(92)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 21 (21 - 23)mmHg
   Total In:
                                                                  2,443 mL
                                                                    152 mL
   PO:
   TF:
                                                                    790 mL
   IVF:
                                                                    843 mL
                                                                    152 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                     75 mL
                                                                     30 mL
   Urine:
                                                                     75 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,368 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (480 - 545) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: occasional) no further bloody secretions
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Jaundice; no bleeding around flexiseal or line sites.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   28 K/uL
   8.8 g/dL
   112 mg/dL
   3.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   60 mg/dL
   102 mEq/L
   140 mEq/L
   26.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2149-8-31**]  10:19 AM
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
                             [**2149-9-2**]  05:02 PM
                             [**2149-9-2**]  08:14 PM
                             [**2149-9-3**]  02:51 AM
                             [**2149-9-3**]  03:40 PM
                             [**2149-9-4**]  03:24 AM
   WBC
   5.2
   6.8
   6.0
   7.6
   6.8
   6.5
   Hct
   28.1
   29.5
   28.9
   26.3
   28.2
   26.8
   27.3
   26.7
   Plt
   34
   45
   31
   57
   29
   44
   28
   Cr
   3.1
   3.3
   3.7
   2.9
   3.4
   TCO2
   27
   27
   Glucose
   138
   136
   131
   123
   112
   Other labs: PT / PTT / INR:22.0/50.8/2.1, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:124 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.7 mg/dL
   Imaging: cxr
   Feeding tube loops in the stomach and passes out of view. ET tube,
   dual-channel left internal jugular dialysis catheter and right internal
   jugular line are in standard placements. Mild pulmonary edema is
   stable.
   Left lower lobe opacification probably atelectasis in the setting of
   stable
   very large cardiac silhouette and moderate bilateral pleural effusions.
   No
   pneumothorax.
   Microbiology: [**2149-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2149-9-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2149-9-2**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2149-8-28**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2149-8-28**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2149-8-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2149-8-28**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -Need to clarify with hepatology exactly what the plan is and the
   family
s awareness.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.  Will perform EGD
   if evidence of significant UGIB.
   - Trend coags s/p FFP, cryo; goal of fibrinogen 125 (give cryo until
   reach that goal), currently stable at 123-124, so will watch.
   - cards consult to consider right heart cath if OK for surgery
   .
   #GI Bleed/DIC: receiving cryo to keep fibrinogen above 125.  Has been
   hemodynamically stable, but with diffuse bruising and mild bleeding,
   including rectally, vaginally, from lines, and from respiratory
   secretions.  No major drops in Hct. Low platelets yesterday, gave one
   bag.
   -fibrinogen >125 this AM, no need for cryo. continue to check daily
   fibrinogen
   - trend Q12 Hcts; Transfuse for Hct <25 or hemodynamic instability
   - nadolol d/c'ed bc of hypotension
   -low platelets this morning, will give bag of platelets today
   -continue IV PPI
   -Maintain active type and screen
   .
   #Hypotension: Pt with MAPs in low 50's 2 days ago. Midodrine restarted,
   not able to wean her from neo.
   -continue midodrine, attempt to wean from neo. Will increase midodrine
   to 15mg TID tomorrow if still unsuccessful at weaning (hadn
t been
   getting midodrine yesterday bc of issues with NGT)
   -f/u cultures
   -will consider CVVH if still unable to wean pressors and
   renal/hepatology feel strongly about doing so. Still quite fluid
   overloaded despite hypotension.  Discuss with consultants to clarify
   plan.
   .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite fact that propofol off since this AM).  Minimal secretions
   overnight.
   -no plan for imminent extubation
   -continue to follow ABGs
   -vanc/cefepime/cipro (day [**7-1**]) empirically for pneumonia. dosing
   renally (vanco after HD).  DC all antibiotics today.
   -fentanyl boluses for pain; on propofol
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   .
   # Acute renal failure:  Now receiving HD.  Likely [**1-27**] atn.
   -may need to transition to CVVH
   -f/u renal recs and trend renal function
   .
   # Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes. Has been in sinus
   rhythm.
   -will likely need right heart cath if goes for surgery
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Lower Extremity Edema: continue to follow. Consider LENIs if
   worsening as pt is at high risk of DVT. Pneumoboots on.
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets; now plt=28 and bleeding. will give bag of platelets
   today.
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF; replete electrolytes as needed
   .
    PPx: SCDs, PPI
    Access: IJ, temporary dialysis cath
    Code: Full (confirmed)
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
    Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-09-04 10:59:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Respiratory Failure, Acute renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on pressors
   24 Hour Events:
   1 unit of FFP yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-9-2**] 04:00 PM
   Cefipime - [**2149-9-3**] 12:00 PM
   Vancomycin - [**2149-9-3**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-3**] 07:43 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-4**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 55 (54 - 62) bpm
   BP: 104/45(64) {93/40(58) - 139/66(92)} mmHg
   RR: 13 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 21 (21 - 23)mmHg
   Total In:
                                                                  2,443 mL
                                                                    332 mL
   PO:
   TF:
                                                                    790 mL
                                                                    110 mL
   IVF:
                                                                    843 mL
                                                                    222 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                     75 mL
                                                                     55 mL
   Urine:
                                                                     75 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,368 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (480 - 640) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.33/50/110/27/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   28 K/uL
   112 mg/dL
   3.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   60 mg/dL
   102 mEq/L
   140 mEq/L
   26.7 %
   6.5 K/uL
         [image002.jpg]
                             [**2149-8-31**]  03:00 PM
                             [**2149-9-1**]  03:38 AM
                             [**2149-9-1**]  04:36 AM
                             [**2149-9-2**]  03:13 AM
                             [**2149-9-2**]  05:02 PM
                             [**2149-9-2**]  08:14 PM
                             [**2149-9-3**]  02:51 AM
                             [**2149-9-3**]  03:40 PM
                             [**2149-9-4**]  03:24 AM
                             [**2149-9-4**]  10:19 AM
   WBC
   5.2
   6.8
   6.0
   7.6
   6.8
   6.5
   Hct
   28.1
   29.5
   28.9
   26.3
   28.2
   26.8
   27.3
   26.7
   Plt
   34
   45
   31
   57
   29
   44
   28
   Cr
   3.1
   3.3
   3.7
   2.9
   3.4
   TCO2
   27
   28
   Glucose
   138
   136
   131
   123
   112
   Other labs: PT / PTT / INR:22.0/50.8/2.1, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:124 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   #GI Bleed: Hct stable.  No cryo for now.  Bleeding around ccentral line
   and FlexiSeal have now stopped
   # ESLD: Midodrine, lactulose, rifaxamin.
   #Respiratory Failure: Remains encephalopathic as main barrier to
   extubation.  vanc/cefepime/cipro (day [**7-1**])
   # Acute renal failure:  ?Change to CVVH
   #Hypotension: Cont neo as needed
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-4**] 08:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2149-09-05 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cvvh started, tolerating -100cc/hr (with neo up a little)
   -transplant [**Doctor First Name **] would like to be updated if we were to decide to go
   ahead w/ R heart cath
   -fibrinogen low but not oozing anymore
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-9-3**] 04:00 PM
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.5
C (95.9
   HR: 56 (50 - 58) bpm
   BP: 97/45(62) {89/41(57) - 117/60(81)} mmHg
   RR: 12 (7 - 13) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,988 mL
                                                                  1,717 mL
   PO:
             TF:
                                                                    640 mL
                                                                    289 mL
   IVF:
                                                                  1,268 mL
                                                                  1,138 mL
   Blood products:
   Total out:
                                                                  2,162 mL
                                                                  3,115 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                   -174 mL
                                                                 -1,398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (538 - 640) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.37/45/150/26/0
   Ve: 4.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Gen: intubated, grimaces when moved, jaundiced
   Cv: rrr. Loud systolic murmur
   Resp: course breath sounds
   Abd: soft, +BS
   Ext: 2+ pitting edema b/l
   Labs / Radiology
   27 K/uL
   8.9 g/dL
   122 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   51 mg/dL
   101 mEq/L
   138 mEq/L
   27.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2149-9-3**]  03:40 PM
                             [**2149-9-4**]  03:24 AM
                             [**2149-9-4**]  10:19 AM
                             [**2149-9-4**]  02:37 PM
                             [**2149-9-4**]  02:39 PM
                             [**2149-9-4**]  02:54 PM
                             [**2149-9-4**]  09:47 PM
                             [**2149-9-4**]  10:04 PM
                             [**2149-9-5**]  03:49 AM
                             [**2149-9-5**]  04:05 AM
   WBC
   6.8
   6.5
   6.6
   5.9
   Hct
   27.3
   26.7
   27.8
   27.8
   Plt
   44
   28
   25
   27
   Cr
   3.4
   3.5
   2.8
   TCO2
   28
   27
   26
   27
   Glucose
   112
   136
   132
   122
   Other labs: PT / PTT / INR:24.8/63.5/2.4, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:81 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: fibrinogen 81
   Microbiology: No positive cx. pending bcx and urine cx
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**], now intubated.
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   -in setting of oozing, goal of fibrinogen 125, fibrinogen currently
   <100 but not bleeding so will not give more cryo for now pending d/w
   liver.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now oozing improved
   -receiving cryo to keep fibrinogen above 125
   -recd plts yesterday for plt <30, plt still low today. could consider
   transfusing more, but pt not currently bleeding
   -continue to trend coags and hct [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - trend Q12 Hcts; Transfuse for Hct <25 or hemodynamic instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (expires [**9-7**])
   .
   #Hypotension: Pt with MAPs in low 50's 2 days ago. Midodrine restarted,
   not able to wean her from neo.
   -continue midodrine, attempt to wean from neo. Will increase midodrine
   to 15mg TID tomorrow if still unsuccessful at weaning (hadn
t been
   getting midodrine yesterday bc of issues with NGT)
   -f/u cultures
   -will consider CVVH if still unable to wean pressors and
   renal/hepatology feel strongly about doing so. Still quite fluid
   overloaded despite hypotension.  Discuss with consultants to clarify
   plan.
   .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite fact that propofol off since this AM).  Minimal secretions
   overnight.
   -no plan for imminent extubation
   -continue to follow ABGs
   -on empiric abx for [**Last Name (LF) 1934**], [**First Name3 (LF) 116**] DC all antibiotics today.
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   .
   # Acute renal failure:  Now receiving HD.  Likely [**1-27**] atn.
   -may need to transition to CVVH
   -f/u renal recs and trend renal function
   .
   # Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes. Has been in sinus
   rhythm.
   -will likely need right heart cath if goes for surgery
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Lower Extremity Edema: continue to follow. Consider LENIs if
   worsening as pt is at high risk of DVT. Pneumoboots on.
   .
   # Thrombocytopenia: Platelet count remains low but stable during
   admission. Thrombocytopenia likely secondary to splenic sequestration
   in setting of portal hypertension and ESLD.
    - Trend platelets; now plt=28 and bleeding. will give bag of platelets
   today.
   .
   # vaginal yeast infection: miconazole
   .
   #FEN: TF; replete electrolytes as needed
   .
    PPx: pneumoboots, PPI
    Access: IJ, temporary dialysis cath
    Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-4**] 08:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   [**Year (4 digits) 1934**]: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-09-05 11:34:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Respiratory Failure, Acute Renal
   Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on CVVH - needing neo at moment and running even
   24 Hour Events:
   Platelet transfusion yesterday
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-9-3**] 04:00 PM
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Phenylephrine - 0.9 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-5**] 08:00 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-5**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 58 (50 - 58) bpm
   BP: 93/40(58) {89/40(57) - 117/60(81)} mmHg
   RR: 12 (7 - 13) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,988 mL
                                                                  2,373 mL
   PO:
             TF:
                                                                    640 mL
                                                                    454 mL
   IVF:
                                                                  1,268 mL
                                                                  1,568 mL
   Blood products:
   Total out:
                                                                  2,162 mL
                                                                  3,965 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                   -174 mL
                                                                 -1,592 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (446 - 612) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/44/135/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   27 K/uL
   126 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   51 mg/dL
   101 mEq/L
   137 mEq/L
   27.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2149-9-4**]  10:19 AM
                             [**2149-9-4**]  02:37 PM
                             [**2149-9-4**]  02:39 PM
                             [**2149-9-4**]  02:54 PM
                             [**2149-9-4**]  09:47 PM
                             [**2149-9-4**]  10:04 PM
                             [**2149-9-5**]  03:49 AM
                             [**2149-9-5**]  04:05 AM
                             [**2149-9-5**]  09:43 AM
                             [**2149-9-5**]  09:54 AM
   WBC
   6.6
   5.9
   Hct
   27.8
   27.8
   Plt
   25
   27
   Cr
   3.5
   2.8
   TCO2
   28
   27
   26
   27
   27
   Glucose
   136
   132
   122
   126
   Other labs: PT / PTT / INR:24.8/63.5/2.4, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**5-12**], Alk Phos / T Bili:63/6.2, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:81 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.8 g/dL, LDH:155 IU/L, Ca++:10.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Now
   intubated with respiratory failure
   # ESLD: Midodrine, lactulose, rifaxamin.  Trying to optimize fluid
   status to see if we can reinitiate transplant workup
   #GI Bleed: Hct stable. Trending platelets and fibrinogen
   #Respiratory Failure: Remains encephalopathic as main barrier to
   extubation.  Antibiotics D/C'd
   # Acute renal failure:  On CVVH - d/c midodrine.  Will use
   neosynephrine to facilitate fluid removal
   #Hypotension: Cont neo as needed
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-5**] 07:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   [**Year (4 digits) 1934**]: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2149-09-06 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -dced citalopram, can restart if mental status improved
   -no new renal recs- total and free calcium increases likely related to
   immobility
   -no new hepatology recs (just want LFT's)
   -fibrinogen 65 and some oozing, gave cryo, up to 100 this am no sig
   oozing
   -is oozing serous fluid
   -issues c clotting in cvvh
   -ptt up this am, rechecking
   -moments of apnea
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-9-3**] 04:00 PM
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-6**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.3
C (95.6
   HR: 60 (56 - 62) bpm
   BP: 97/43(61) {92/40(58) - 118/75(90)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
           Total In:
                                                                  5,333 mL
                                                                  1,226 mL
   PO:
           TF:
                                                                    960 mL
                                                                    287 mL
   IVF:
                                                                  3,340 mL
                                                                    842 mL
   Blood products:
                                                                    313 mL
                                                                     38 mL
   Total out:
                                                                  8,399 mL
                                                                  2,516 mL
   Urine:
                                                                     15 mL
                                                                      5 mL
   NG:
   Stool:
                                                                  1,600 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,066 mL
                                                                 -1,290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (444 - 582) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/42/152/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: intubated, sedated, not following commands, jaundiced
   Cv: RRR loud systolic murmur
   Resp: course breath sounds
   Abd: soft, NT
   Ext: 2+ edema b/l
   Labs / Radiology
   30 K/uL
   8.2 g/dL
   134 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   36 mg/dL
   101 mEq/L
   137 mEq/L
   26.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-9-5**]  03:49 AM
                             [**2149-9-5**]  04:05 AM
                             [**2149-9-5**]  09:43 AM
                             [**2149-9-5**]  09:54 AM
                             [**2149-9-5**]  03:42 PM
                             [**2149-9-5**]  03:58 PM
                             [**2149-9-5**]  09:35 PM
                             [**2149-9-5**]  09:48 PM
                             [**2149-9-6**]  04:35 AM
                             [**2149-9-6**]  04:53 AM
   WBC
   5.9
   6.6
   5.1
   Hct
   27.8
   26.8
   26.3
   Plt
   27
   29
   30
   Cr
   2.8
   2.5
   2.1
   TCO2
   27
   27
   28
   26
   26
   Glucose
   122
   126
   118
   125
   134
   Other labs: PT / PTT / INR:24.8/121.1/2.4, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**10-20**], Alk Phos / T Bili:65/6.4, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:101 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Microbiology: no new culture data
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick.
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   -in setting of oozing, goal of fibrinogen 125, fibrinogen currently
   <100 but not bleeding so will not give more cryo for now pending d/w
   liver.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now oozing improved
   -receiving cryo to keep fibrinogen above 125 if actively bleeding (not
   bleeding this AM)
   -recd plts yesterday for plt <30, plt still low today. could consider
   transfusing more if starts oozing
   -continue to trend coags and hct [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - trend Q24 Hcts; Transfuse for Hct <25 or hemodynamic instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (reordered for [**9-7**])
   .
   #Hypotension: Pt with MAPs in low 50's 2 days ago. Midodrine restarted,
   not able to wean her from neo.
   -will d/c midodrine b/c still requiring neo anyway
   -f/u cultures
   .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite fact that propofol off since this AM).  Minimal secretions
   overnight.
   -no plan for imminent extubation
   -continue to follow ABGs
   -finished course of empiric abx for VAP.
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - continue to follow up on cultures
   - Cont lactulose and rifaximin
   .
   # Acute renal failure:  Now receiving HD.  Likely [**1-27**] atn.
   -on CVVH
   -f/u renal recs and trend renal function
   .
   # Afib with RVR: with stable pressures. Tolerating afib as long as
   normotensive. Normotensive, no hypotensive episodes. Has been in sinus
   rhythm.
   -will likely need right heart cath if goes for surgery
   - If needed may use diltiazem, however use small dose 1-2mg IV, also
   consider let HR stay 130 as long as pressures stable
   .
   # Lower Extremity Edema: continue to follow. Consider LENIs if
   worsening as pt is at high risk of DVT. Pneumoboots on.
   .
   # vaginal yeast infection: miconazole
   .
   #depression: holding citalopram for now in setting of somnolence.
   .
   #FEN: TF; replete electrolytes as needed
   .
    PPx: pneumoboots, PPI, dced nystatin as no more thrush
    Access: IJ, temporary dialysis cath
   Code: Full (confirmed)
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-5**] 07:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-09-06 10:56:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Respiratory Failure, Acute Renal
   Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increased pressor requirment
   24 Hour Events:
   CVVH clotting problems --> machine switched out
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-9-3**] 04:00 PM
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-6**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 64 (56 - 64) bpm
   BP: 102/45(64) {81/37(52) - 118/75(90)} mmHg
   RR: 13 (5 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 13 (11 - 13)mmHg
   Total In:
                                                                  5,333 mL
                                                                  1,946 mL
   PO:
   TF:
                                                                    960 mL
                                                                    430 mL
   IVF:
                                                                  3,340 mL
                                                                  1,339 mL
   Blood products:
                                                                    313 mL
                                                                     38 mL
   Total out:
                                                                  8,399 mL
                                                                  3,284 mL
   Urine:
                                                                     15 mL
                                                                      5 mL
   NG:
   Stool:
                                                                  1,600 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,066 mL
                                                                 -1,338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (444 - 582) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/40/159/25/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   30 K/uL
   134 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   36 mg/dL
   101 mEq/L
   137 mEq/L
   26.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-9-5**]  04:05 AM
                             [**2149-9-5**]  09:43 AM
                             [**2149-9-5**]  09:54 AM
                             [**2149-9-5**]  03:42 PM
                             [**2149-9-5**]  03:58 PM
                             [**2149-9-5**]  09:35 PM
                             [**2149-9-5**]  09:48 PM
                             [**2149-9-6**]  04:35 AM
                             [**2149-9-6**]  04:53 AM
                             [**2149-9-6**]  10:25 AM
   WBC
   6.6
   5.1
   Hct
   26.8
   26.3
   Plt
   29
   30
   Cr
   2.5
   2.1
   TCO2
   27
   27
   28
   26
   26
   25
   Glucose
   126
   118
   125
   134
   Other labs: PT / PTT / INR:24.8/121.1/2.4, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**10-20**], Alk Phos / T Bili:65/6.4, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:101 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Now
   intubated with respiratory failure
   # ESLD: Midodrine, lactulose, rifaxamin.  Optimizing fluid status with
   CVVH if possible
   #GI Bleed: Hct stable. Trending platelets and fibrinogen
   #Respiratory Failure: Remains encephalopathic - continue current vent
   settings
   # Acute renal failure:  On CVVH got fluid off yesterday but having to
   slow down fluid removal due to hypotension.
   #Hypotension: Needing more neo - titrate as needed to facilitate fluid
   removal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-6**] 07:52 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2149-09-07 06:46:00 Physician Resident Progress Note
Chief Complaint: 69 year old female with severe EtOH cirrhosis c/b
   encephalopathy, ascites, portal hypertensive gastropathy, and grade II
   varices transferred to the MICU for encephalopathy and renal failure.
   Approved for transplant at meeting on [**2149-8-26**] now inactivated on
   transplant list [**1-27**] too sick.
   24 Hour Events:
   -pt developed afib c rvr c pressures in the 80s, neo increased to
   stabilize bp, but HR stayed in 140s for several minutes. gave pt back
   250cc and pt broke (not sure if related....)
   -liver: no new recs, recommend fam mtg re GOC
   -renal: rec dc sevelamer
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-6**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36
C (96.8
   HR: 63 (60 - 129) bpm
   BP: 103/47(67) {79/37(52) - 127/62(84)} mmHg
   RR: 13 (5 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 24 (11 - 24)mmHg
   Total In:
                                                                  4,686 mL
                                                                  1,341 mL
   PO:
   TF:
                                                                    960 mL
                                                                    270 mL
   IVF:
                                                                  3,268 mL
                                                                  1,011 mL
   Blood products:
                                                                    238 mL
   Total out:
                                                                  5,765 mL
                                                                  1,270 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
                                                                     50 mL
   Balance:
                                                                 -1,079 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 680 (475 - 680) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/37/151/23/0
   Ve: 5.2 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Intubated, minimally responsive to pain, otherwise with minimal
   purposeless movements.  Off sedation for previous 30 minutes.
   Lungs with moderate air movement in anterior lung fields, grossly
   clear.
   RRR, [**1-31**] holosystolic murmur.
   Abdomen soft, non-distended, +BS
   2+ peripheral edema.
   No visible bleeding, continues to weep fluid from prior IV sites on
   bilateral forearms.
   Labs / Radiology
   25 K/uL
   8.2 g/dL
   126 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   25 mg/dL
   100 mEq/L
   135 mEq/L
   26.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2149-9-5**]  09:48 PM
                             [**2149-9-6**]  04:35 AM
                             [**2149-9-6**]  04:53 AM
                             [**2149-9-6**]  10:08 AM
                             [**2149-9-6**]  10:25 AM
                             [**2149-9-6**]  04:19 PM
                             [**2149-9-6**]  04:24 PM
                             [**2149-9-6**]  09:55 PM
                             [**2149-9-7**]  03:56 AM
                             [**2149-9-7**]  04:08 AM
   WBC
   5.1
   6.2
   Hct
   26.3
   26.0
   Plt
   30
   25
   Cr
   2.1
   1.9
   1.6
   TCO2
   26
   26
   25
   26
   25
   24
   Glucose
   134
   126
   122
   120
   129
   126
   Other labs: PT / PTT / INR:25.8/63.2/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**10-20**], Alk Phos / T Bili:65/6.4, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:96 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick.
   .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   -in setting of oozing, goal of fibrinogen 125, fibrinogen currently
   <100 but not bleeding.
   - will continue to follow closely, give cryo if there is any evidence
   of bleeding.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -receiving cryo as above
 if fibrinogen < 125 and evidence of
   bleeding.
   -platelets remain low, but relatively stable.  Received plt transfusion
   on [**9-5**].  Will transfuse again with evidence of bleeding.
   -continue to trend coags and CBC [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - continue to follow HCT; Transfuse for Hct <25 or hemodynamic
   instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (reordered for [**9-7**])
   .
   #Hypotension: Pt with MAPs in low 50's 3 days ago. Midodrine restarted,
   not able to wean her from neo.
   -still requiring neo, will re-start midodrine today.
   -f/u cultures
 no new results.
   -sent blood cultures this morning, also C. diff toxin.
   -DC Foley today
 will leave out for now, reassess with bladder
   Doppler, straight cath in [**12-27**] days.
   .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status (still very sedated
   despite being off propofol).
   -no plan for imminent extubation
   -continue to follow ABGs
 have been stable.
   -finished course of empiric abx for VAP.  Now off antibiotics.
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - no recent cultures.
   - Cont lactulose and rifaximin
   .
   # Acute renal failure:  On CVVH.
   -continue CVVH
 run even today.
   -f/u renal recs and trend renal function
   -renal recommended discontinuing sevalemer yesterday.
   .
   # Afib with RVR: had episode yesterday with decreased blood pressures,
   HR in 140
s for several minutes.  Neo was increased to stabilize blood
   pressures.  250 ml bolus given, A-fib resolved.
   - will need right heart cath if goes for surgery
   .
   # vaginal yeast infection: miconazole
   .
   #depression: holding citalopram for now in setting of somnolence.
   .
   #FEN: TF; replete electrolytes as needed
   .
    PPx: pneumoboots, PPI, dced nystatin as no more thrush
    Access: IJ, temporary dialysis cath
   Code: Full (confirmed)
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-7**] 02:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT:   pneumoboots
   Stress ulcer:   PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:  family very involved, getting daily updates.
   Code status: Full code
   Disposition:  ICU
   ------ Protected Section ------
   Also now on Cipro for SBP prophylaxis
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2149-9-7**] 16:36 ------

2149-09-07 10:49:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Respiratory Failure, Acute Renal
   Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Episode of rapid afib yestreday - resolved after 40 minutes after a
   fluid bolus
   24 Hour Events:
   negative 1L yesterday
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2149-9-4**] 12:00 PM
   Ciprofloxacin - [**2149-9-4**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-6**] 08:16 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Gastrointestinal: Diarrhea
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-7**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.6
   HR: 65 (61 - 129) bpm
   BP: 109/48(69) {79/40(56) - 127/62(84)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105 kg (admission): 84.4 kg
   Height: 70 Inch
   CVP: 25 (11 - 25)mmHg
   Total In:
                                                                  4,686 mL
                                                                  2,132 mL
   PO:
   TF:
                                                                    960 mL
                                                                    421 mL
   IVF:
                                                                  3,268 mL
                                                                  1,551 mL
   Blood products:
                                                                    238 mL
   Total out:
                                                                  5,765 mL
                                                                  2,086 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
                                                                  1,100 mL
                                                                    300 mL
   Drains:
                                                                     50 mL
   Balance:
                                                                 -1,079 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Apnea Ventilation
   Vt (Spontaneous): 523 (475 - 680) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.39/40/137/23/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   25 K/uL
   126 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   25 mg/dL
   100 mEq/L
   135 mEq/L
   26.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2149-9-6**]  04:35 AM
                             [**2149-9-6**]  04:53 AM
                             [**2149-9-6**]  10:08 AM
                             [**2149-9-6**]  10:25 AM
                             [**2149-9-6**]  04:19 PM
                             [**2149-9-6**]  04:24 PM
                             [**2149-9-6**]  09:55 PM
                             [**2149-9-7**]  03:56 AM
                             [**2149-9-7**]  04:08 AM
                             [**2149-9-7**]  09:56 AM
   WBC
   5.1
   6.2
   Hct
   26.3
   26.0
   Plt
   30
   25
   Cr
   2.1
   1.9
   1.6
   TCO2
   26
   25
   26
   25
   24
   25
   Glucose
   134
   126
   122
   120
   129
   126
   Other labs: PT / PTT / INR:25.8/63.2/2.5, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**10-20**], Alk Phos / T Bili:65/6.4, Amylase
   / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3 %,
   Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:96 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Now
   intubated with respiratory failure
   # ESLD: Cont CVVH - not able get fluid off at the moment due to labile
   blood pressures.  Midodrine, lactulose, rifaxamin.
   #GI Bleed: Hct stable. Trending platelets and fibrinogen
   #Respiratory Failure: Mental status poor off propofol this AM - cont
   current vent managment
   # Acute renal failure:  CVVH - fluid removal prn
   #Hypotension: Cont neo but still not able to run CVVH negative
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-7**] 02:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2149-09-08 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2149-9-7**] 11:50 AM
 STOOL CULTURE - At [**2149-9-7**] 11:55 AM
 BLOOD CULTURED - At [**2149-9-7**] 11:55 AM
   -in early afternoon developed A-fib, rate up to 130's, but with stable
   blood pressures.  Converted back to sinus without
    intervention.
   -renal recs:  continue CVVH, decrease fluid removal, run even today.
   -liver recs:  nothing new - continue CVVH, continue rifaxamin 400 TID.
       planning to arrange family meeting to discuss goals of care - may
   not happen until Tuesday?  Will check with
      hepatology tomorrow.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-7**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-8**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 71 (61 - 130) bpm
   BP: 96/41(60) {87/39(56) - 117/64(80)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 22 (17 - 27)mmHg
   Total In:
                                                                  5,192 mL
                                                                  1,497 mL
   PO:
   TF:
                                                                    960 mL
                                                                    253 mL
   IVF:
                                                                  3,612 mL
                                                                  1,103 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,242 mL
                                                                  1,162 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
                                                                     75 mL
   Balance:
                                                                    -50 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (242 - 548) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.42/38/154/26/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Gen: NAD
   CV: regular rate, nl S1, S2
   Resp: Rhonchorous b/l
   Abd: soft, NT, distended
   Ext: [**12-27**]+ edema b/l
   Labs / Radiology
   31 K/uL
   8.1 g/dL
   120 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   17 mg/dL
   99 mEq/L
   136 mEq/L
   25.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2149-9-6**]  09:55 PM
                             [**2149-9-7**]  03:56 AM
                             [**2149-9-7**]  04:08 AM
                             [**2149-9-7**]  09:50 AM
                             [**2149-9-7**]  09:56 AM
                             [**2149-9-7**]  03:58 PM
                             [**2149-9-7**]  04:01 PM
                             [**2149-9-7**]  09:59 PM
                             [**2149-9-8**]  03:54 AM
                             [**2149-9-8**]  04:05 AM
   WBC
   6.2
   6.6
   Hct
   26.0
   25.0
   Plt
   25
   31
   Cr
   1.6
   1.4
   1.1
   TCO2
   25
   24
   25
   24
   26
   25
   Glucose
   120
   129
   126
   155
   150
   114
   123
   120
   Other labs: PT / PTT / INR:27.3/64.1/2.7, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**11-23**], Alk Phos / T Bili:100/6.9,
   Amylase / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3
   %, Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:75 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick
   #Hypotension/Shock: Likely some component of too much fluid off with
   CVVH. Midodrine restarted, not able to wean her from neo, and in fact
   has been requiring more neo overnight.
   -still requiring neo, also on midodrine; will try to run her even with
   CVVH to avoid exacerbating hypotension
   -f/u cultures
 no new results. Possibly does have some component of
   septic shock, but has been off antibiotics other than cipro now because
   finished full course for possible VAP
   -re-sent blood cultures this morning
   -possibly has some component of low BP from liver failure; could also
   have some component because of abdominal distension; will check
   intra-abdominal pressure
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status
   -no plan for imminent extubation
   -continue to follow ABGs
 have been stable.
   -finished course of empiric abx for VAP.  Now off antibiotics other
   than cipro prophylaxis.
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -meeting with Dr. [**Last Name (STitle) 416**] today to discuss goals of care
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   -in setting of oozing, goal of fibrinogen 125, fibrinogen currently
   <100 but not bleeding.
   - will continue to follow closely, give cryo if there is any evidence
   of bleeding.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   # Acute renal failure:  On CVVH.
   -continue CVVH
 run even today.
    -f/u renal recs and trend renal function
   -renal recommended discontinuing sevalemer yesterday.
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -receiving cryo as above
 if fibrinogen < 125 and evidence of
   bleeding.
   -platelets remain low, but relatively stable.  Received plt transfusion
   on [**9-5**].  Will transfuse again with evidence of bleeding.
   -continue to trend coags and CBC [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - continue to follow HCT; Transfuse for Hct <25 or hemodynamic
   instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (reordered for [**9-7**])
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - no recent cultures.
   - Cont lactulose and rifaximin
   # Afib with RVR: had episode yesterday with decreased blood pressures,
   HR in 130
s for several minutes. Resolved spontaneously
   - will need right heart cath if goes for surgery
   .
   # vaginal yeast infection: miconazole
   #depression: holding citalopram for now in setting of somnolence.
   #FEN: TF; replete electrolytes as needed
    PPx: pneumoboots, PPI, dced nystatin as no more thrush
    Access: IJ, temporary dialysis cath
   Code: Full (confirmed)
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-8**] 12:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2149-09-09 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2149-9-8**] 06:30 PM
 EKG - At [**2149-9-9**] 01:28 AM
   -d/c'ed albumin (no HRS, just adding fluid)
   -wanted to check intra-abdominal pressure, but no foley in place
   -had HR>130's, gave diltiazem with good effect x 1, but dropped
   pressures. then again had HR>140's, gave lopressor
   -required 3mg phenylephrine throughout the day
   -pt made DNR/DNI- chemical code only-no CPR or shocks (spoke with Dr.
   [**Last Name (STitle) 416**] and our team also confirmed with husband as well)69 year old
   female with severe EtOH cirrhosis c/b encephalopathy, ascites, portal
   hypertensive gastropathy, and grade II varices transferred to the MICU
   for encephalopathy and renal failure.  Approved for transplant at
   meeting on [**2149-8-26**] now inactivated on transplant list [**1-27**] too sick
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 3 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-8**] 08:00 AM
   Diltiazem - [**2149-9-8**] 02:00 PM
   Metoprolol - [**2149-9-9**] 01:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 71 (69 - 142) bpm
   BP: 103/49(68) {90/43(61) - 114/68(83)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 20 (16 - 23)mmHg
   Total In:
                                                                  5,627 mL
                                                                  1,673 mL
   PO:
   TF:
                                                                    960 mL
                                                                    283 mL
   IVF:
                                                                  4,197 mL
                                                                  1,270 mL
   Blood products:
   Total out:
                                                                  5,283 mL
                                                                  1,717 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    344 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 807 (338 - 807) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.43/36/167/24/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   Cv: rrr, loud systolic murmur
   Resp: course breath sounds
   Abd: soft, +BS
   Ext: 2+ peripheral edema
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   136 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   15 mg/dL
   98 mEq/L
   134 mEq/L
   24.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2149-9-8**]  03:54 AM
                             [**2149-9-8**]  04:05 AM
                             [**2149-9-8**]  08:22 AM
                             [**2149-9-8**]  08:40 AM
                             [**2149-9-8**]  03:54 PM
                             [**2149-9-8**]  04:24 PM
                             [**2149-9-8**]  09:59 PM
                             [**2149-9-8**]  10:13 PM
                             [**2149-9-9**]  03:51 AM
                             [**2149-9-9**]  04:03 AM
   WBC
   6.6
   6.5
   Hct
   25.0
   24.6
   Plt
   31
   27
   Cr
   1.1
   1.2
   1.2
   1.1
   1.1
   TCO2
   25
   24
   24
   25
   25
   Glucose
   123
   120
   122
   154
   164
   136
   Other labs: PT / PTT / INR:27.0/64.6/2.6, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**11-23**], Alk Phos / T Bili:100/6.9,
   Amylase / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3
   %, Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:86 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Imaging: no new
   Microbiology: no new
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   #Hypotension/Shock: Likely some component of too much fluid off with
   CVVH. Midodrine restarted, not able to wean her from neo, and in fact
   has been requiring more neo overnight.
   -still requiring neo, also on midodrine; will try to run her even with
   CVVH to avoid exacerbating hypotension
   -f/u cultures
 no new results. Possibly does have some component of
   septic shock, but has been off antibiotics other than cipro now because
   finished full course for possible VAP
   -re-sent blood cultures on [**9-7**] and [**9-8**], both NGTD
   -possibly has some component of low BP from liver failure
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status
   -no plan for imminent extubation
   -continue to follow ABGs
 have been stable.
   -finished course of empiric abx for VAP.  Now off antibiotics other
   than cipro prophylaxis.
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -meeting with Dr. [**Last Name (STitle) 416**] yesterday, pt made DNR/DNI
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   -in setting of oozing, goal of fibrinogen 125, fibrinogen currently
   <100 but not bleeding.
   - will continue to follow closely, give cryo if there is any evidence
   of bleeding.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   # Acute renal failure:  On CVVH.
   -continue CVVH
 run even today.
    -f/u renal recs and trend renal function
   -renal recommended discontinuing sevalemer yesterday.
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -recd 1U of cryo for minimal oozing from bottom and gums
   -receiving cryo as above
 if fibrinogen < 125 and evidence of
   bleeding.
   -platelets remain low, but relatively stable.  Received plt transfusion
   on [**9-5**].  Will transfuse again with evidence of bleeding.
   -continue to trend coags and CBC [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - continue to follow HCT; Transfuse for Hct <25 or hemodynamic
   instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (expires [**9-10**])
   -continue cipro ppx for SBP
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - no recent cultures.
   - Cont lactulose and rifaximin
   # Afib with RVR: had episode yesterday with decreased blood pressures,
   HR in 130
s for several minutes. Resolved spontaneously
   - will need right heart cath if goes for surgery
   .
   # vaginal yeast infection: miconazole
   #depression: holding citalopram for now in setting of somnolence.
    #FEN: TF; replete electrolytes as needed
   PPx: pneumoboots, PPI, dced nystatin as no more thrush
    Access: IJ, temporary dialysis cath
    Code: DNR/DNI
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-9**] 12:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2149-09-10 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt in afib c rates in 120s-140s s/p suctioning around 12:30pm. got
   250cc NS and 5 lopressor s effect. gave addl 5 lopressor x2 but still
   no change after 20 min. Gave addl 250cc ns and pt broke.
   -discussed possibility of dig loading or amio loading if recurrent
   trouble c afib. one concern c amio (or cardioversion) would be that she
   has been in and out of afib for days and is not anticoagulated.
   -no new recs from renal or hepatology
   -husband left before Dr [**Name (NI) 242**] could chat c him again
   -started running cvvh negative 50 cc at approx 1hr after converted out
   of afib. started at neg 50cc then bumped to 70cc neg.
   -went into afib again after being suctioned around 1am. gave lopressor
   5 x3 s effect
   -started dig load at 2am c 0.25 IV. will get 0.125 at 10am and at 6pm.
   should get EKGs 6 hours after each dose (8am, 4pm, midnight).
   -did not write for standing dig, wanted to discuss dosing c pharmacy
   and/or renal. per utdol, dig not dialyzable
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 1.2 units/hour
   Phenylephrine - 3.3 mcg/Kg/min
   Propofol - 8 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-9**] 08:00 AM
   Labetalol - [**2149-9-9**] 01:30 PM
   Metoprolol - [**2149-9-10**] 01:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 118 (71 - 144) bpm
   BP: 103/56(74) {95/44(62) - 122/65(81)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 18 (15 - 31)mmHg
   Total In:
                                                                  5,579 mL
                                                                  1,542 mL
   PO:
   TF:
                                                                    960 mL
                                                                    280 mL
   IVF:
                                                                  4,009 mL
                                                                  1,082 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  5,604 mL
                                                                  1,615 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    -25 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 563 (348 - 624) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/38/324/21/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 810
   Physical Examination
   Gen: intubated, sedated, jaundiced
   Cv: irregularly irregular
   Resp: course breath sounds
   Abd: soft, +BS
   Ext: 2+ edema
   Labs / Radiology
   33 K/uL
   7.5 g/dL
   127 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   23.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2149-9-9**]  03:51 AM
                             [**2149-9-9**]  04:03 AM
                             [**2149-9-9**]  10:01 AM
                             [**2149-9-9**]  10:23 AM
                             [**2149-9-9**]  04:28 PM
                             [**2149-9-9**]  05:05 PM
                             [**2149-9-9**]  09:30 PM
                             [**2149-9-10**]  12:39 AM
                             [**2149-9-10**]  03:30 AM
                             [**2149-9-10**]  03:46 AM
   WBC
   6.5
   6.2
   Hct
   24.6
   23.7
   Plt
   27
   33
   Cr
   1.1
   1.0
   1.0
   1.0
   TCO2
   25
   25
   24
   22
   23
   25
   Glucose
   136
   118
   157
   134
   127
   Other labs: PT / PTT / INR:26.6/54.9/2.6, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**11-23**], Alk Phos / T Bili:100/6.9,
   Amylase / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3
   %, Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:110 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: no cxr today
   Microbiology: no new culture data
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure.  Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick
    .
   #Hypotension/Shock: Likely some component of too much fluid off with
   CVVH. Midodrine restarted, not able to wean her from neo, and in fact
   has been requiring more neo overnight.
   -still requiring neo, also on midodrine; will try to add vasopressin
   and then try to get her negative c CVVH
   -f/u cultures
 no new results. Possibly does have some component of
   septic shock, but has been off antibiotics other than cipro now because
   finished full course for possible VAP
   -re-sent blood cultures on [**9-7**] and [**9-8**], both NGTD
   -possibly has some component of low BP from liver failure
    .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status
   -no plan for imminent extubation
   -continue to follow ABGs
 have been stable.
   -finished course of empiric abx for VAP.  Now off antibiotics other
   than cipro prophylaxis.
    .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -meeting with Dr. [**Last Name (STitle) 416**] yesterday, pt made DNR/DNI
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   - will continue to follow closely, give cryo if there is any evidence
   of bleeding.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   # Acute renal failure:  On CVVH.
   -continue CVVH
 run even today.
    -f/u renal recs and trend renal function
   -renal recommended discontinuing sevalemer yesterday.
   .
   # Afib with RVR: had several episodes of afib yesterday into the 140s.
   Tried to rate control c lopressor. First time broke with fluids. second
   time started dig load and eventually went back to sinus rhythm but
   again in afib this am.
   -continue rest of dig load (at 10a and 8p tonight). will d/w renal what
   appropriate dig dosing is after loading
   - may need right heart cath if goes for surgery
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -recd 1U of cryo yesterday for minimal oozing from bottom and gums
   -today no oozing and fibrinogen of 110.
   -platelets remain low, but relatively stable.  Received plt transfusion
   on [**9-5**].  Will transfuse again with evidence of bleeding.
   -continue to trend coags and CBC [**Hospital1 **]
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - continue to follow HCT; Transfuse for Hct <25 or hemodynamic
   instability
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Maintain active type and screen (reordered this am)
   -continue cipro ppx for SBP
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - no recent cultures.
   - Cont lactulose and rifaximin
   .
   # vaginal/bottom yeast infection: miconazole
   #depression: holding citalopram for now in setting of somnolence.
    #FEN: TF; replete electrolytes as needed
   PPx: pneumoboots, PPI, dced nystatin as no more thrush
    Access: IJ, temporary dialysis cath
   Code: DNR/DNI
    Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
     Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-10**] 12:18 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-09-11 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2149-9-10**] 09:00 AM
   for dig monitoring
 SPUTUM CULTURE - At [**2149-9-10**] 01:15 PM
   -renal wants CVVH to keep even
   -f/u digoxin level
   -family meeting: will stop adding care once CVVH circuit is complete
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 1.2 units/hour
   Propofol - 8 mcg/Kg/min
   Phenylephrine - 4.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-10**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-11**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 80 (71 - 131) bpm
   BP: 103/47(66) {91/43(59) - 112/63(76)} mmHg
   RR: 17 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 22 (15 - 25)mmHg
   Total In:
                                                                  4,672 mL
                                                                    963 mL
   PO:
   TF:
                                                                    960 mL
                                                                    259 mL
   IVF:
                                                                  3,412 mL
                                                                    704 mL
   Blood products:
   Total out:
                                                                  5,462 mL
                                                                    616 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 957 (459 - 957) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/43/376/21/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 940
   Physical Examination
   gen: intubated, sedated
   cv: rrr loud systolic murmur
   resp: course breath sounds
   abd: soft +BS
   ext: 2+edema
   Labs / Radiology
   32 K/uL
   7.5 g/dL
   137 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   14 mg/dL
   98 mEq/L
   133 mEq/L
   23.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2149-9-10**]  03:30 AM
                             [**2149-9-10**]  03:46 AM
                             [**2149-9-10**]  10:05 AM
                             [**2149-9-10**]  10:25 AM
                             [**2149-9-10**]  04:21 PM
                             [**2149-9-10**]  04:41 PM
                             [**2149-9-10**]  09:37 PM
                             [**2149-9-10**]  09:58 PM
                             [**2149-9-11**]  04:06 AM
                             [**2149-9-11**]  04:29 AM
   WBC
   6.2
   8.9
   Hct
   23.7
   23.9
   Plt
   33
   32
   Cr
   1.0
   1.0
   0.9
   1.0
   1.1
   TCO2
   25
   24
   24
   24
   25
   Glucose
   127
   140
   152
   131
   137
   Other labs: PT / PTT / INR:26.9/54.9/2.6, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**11-23**], Alk Phos / T Bili:100/6.9,
   Amylase / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3
   %, Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:103 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure. Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick
    .
   #Goals of Care: Family mtg yesterday, decided no more cvvh. slowly
   starting to withdraw care.
   -consider not checking daily labs
   -consider withdrawing some meds
   -consider extubate
   .
   #Hypotension/Shock: Likely some component of too much fluid off with
   CVVH. Midodrine restarted, not able to wean her from neo.
   -still requiring neo, also on midodrine; will try to add vasopressin
   and then try to get her negative c CVVH
   -f/u cultures
 no new results. Possibly does have some component of
   septic shock, but has been off antibiotics other than cipro now because
   finished full course for possible VAP
   -re-sent blood cultures on [**9-7**] and [**9-8**], both NGTD
   -possibly has some component of low BP from liver failure
    .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status
   -no plan for imminent extubation, could ask husband if he would like to
   try to extubate, though would not be able to reintubate if she failed
   -finished course of empiric abx for VAP.  Now off antibiotics other
   than cipro prophylaxis.
    .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -meeting with Dr. [**Last Name (STitle) 416**] yesterday, pt made DNR/DNI
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   - will continue to follow closely, give cryo if there is any evidence
   of bleeding.
   - cards consult to consider right heart cath if otherwise OK for
   surgery
   .
   # Acute renal failure:  On CVVH.
   -will stop cvvh when this filter is done.
    -f/u renal recs and trend renal function
   -renal recommended discontinuing sevalemer yesterday.
   .
   # Afib with RVR: had several episodes of afib yesterday into the 140s.
   Tried to rate control c lopressor. First time broke with fluids. second
   time started dig load and eventually went back to sinus rhythm but
   again in afib this am.
   -dig load complete, no new dig ordered
   -dig level 0.4 yesterday
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -today no oozing and fibrinogen of 103.
   -will stop monitoring as would not correct
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - will not transfuse, will stop monitoring daily hct
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Stop ordering type and screen (reordered this am)
   -continue cipro ppx for SBP
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - recent cultures ngtd.
   - Cont lactulose and rifaximin
   .
   # vaginal/bottom yeast infection: miconazole
   #depression: holding citalopram for now in setting of somnolence.
   #FEN: TF; replete electrolytes as needed
    PPx: pneumoboots, PPI
    Access: IJ, temporary dialysis cath
   Code: DNR/DNI
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
      Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-11**] 12:17 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-09-12 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2149-9-11**] 07:00 PM
   -family appears to be moving more towards idea of CMO
   -in afib with RVR throughout the day. low pressures, did not give
   lopressor or dilt. Did give extra 1/2 dose of digoxin since level was
   0.6
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Shellfish Derived
   Anaphylaxis;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 1.2 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-9-11**] 08:33 AM
   Fentanyl - [**2149-9-12**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.3
C (99.1
   HR: 87 (83 - 151) bpm
   BP: 74/39(52) {69/37(51) - 108/55(70)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108 kg (admission): 84.4 kg
   Height: 70 Inch
    CVP: 18 (15 - 37)mmHg
   Total In:
                                                                  2,695 mL
                                                                    627 mL
   PO:
   TF:
                                                                    960 mL
                                                                    278 mL
   IVF:
                                                                  1,435 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                    746 mL
                                                                     70 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    130 mL
                                                                     70 mL
   Balance:
                                                                  1,949 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 776 (335 - 776) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.5 L/min
   Physical Examination
   Gen: intubated, opening eyes
   Cv: rrr loud systolic murmur
   Resp: course breath sounds, otherwise clear anteriorly
   Abd: soft, +BS
   Ext: edema
   Labs / Radiology
   30 K/uL
   6.9 g/dL
   157 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   28 mg/dL
   100 mEq/L
   136 mEq/L
   21.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2149-9-10**]  03:46 AM
                             [**2149-9-10**]  10:05 AM
                             [**2149-9-10**]  10:25 AM
                             [**2149-9-10**]  04:21 PM
                             [**2149-9-10**]  04:41 PM
                             [**2149-9-10**]  09:37 PM
                             [**2149-9-10**]  09:58 PM
                             [**2149-9-11**]  04:06 AM
                             [**2149-9-11**]  04:29 AM
                             [**2149-9-12**]  01:55 AM
   WBC
   8.9
   10.1
   Hct
   23.9
   21.1
   Plt
   32
   30
   Cr
   1.0
   0.9
   1.0
   1.1
   1.9
   TCO2
   25
   24
   24
   24
   25
   Glucose
   140
   152
   131
   137
   157
   Other labs: PT / PTT / INR:27.6/49.0/2.7, CK / CKMB /
   Troponin-T:32//0.08, ALT / AST:[**11-23**], Alk Phos / T Bili:100/6.9,
   Amylase / Lipase:/60, Differential-Neuts:82.9 %, Lymph:10.3 %, Mono:5.3
   %, Eos:1.1 %, D-dimer:[**Numeric Identifier 8036**] ng/mL, Fibrinogen:109 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:4.9 g/dL, LDH:155 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
   69 year old female with severe EtOH cirrhosis c/b encephalopathy,
   ascites, portal hypertensive gastropathy, and grade II varices
   transferred to the MICU for encephalopathy and renal failure. Approved
   for transplant at meeting on [**2149-8-26**] now inactivated on transplant list
   [**1-27**] too sick
    .
   #Goals of Care: Family mtg yesterday, decided no more cvvh. slowly
   starting to withdraw care.
   -continue daily discussions regarding GOC
   -not checking am labs
   -consider starting to withdraw meds
   -consider extubate
   .
   #Hypotension/Shock: Likely some component of too much fluid off with
   CVVH. Midodrine restarted, not able to wean her from neo.
   -still requiring neo, also on midodrine and vasopressin
   -f/u cultures
 no new results. Possibly does have some component of
   septic shock, but has been off antibiotics other than cipro now because
   finished full course for possible VAP
   -re-sent blood cultures on [**9-7**] and [**9-8**], both NGTD
   -possibly has some component of low BP from liver failure
    .
   #Respiratory Failure: Patient intubated for airway protection. ?
   pneumonia on CXR.
   -continue current vent settings, wean as tolerated; likely will not be
   able to clear secretions because of mental status
   -consider extubate, though would not be able to reintubate if she
   failed
   -finished course of empiric abx for VAP.  Now off antibiotics other
   than cipro prophylaxis.
    .
   # ESLD: Patient with severe cirrhosis complicated by ascites,
   encephalopathy, varices, and portal hypertensive gastropathy. Approved
   for transplant by committee as of [**2149-8-26**], currently inactivated from
   list as not healthy enough for surgery.
   -meeting with Dr. [**Last Name (STitle) 416**] yesterday, pt made DNR/DNI
   - Continue lactulose, rifaxamin.
   - Liver following closely, continue to follow recs.
   .
   # Acute renal failure:  discontinued cvvh yesterday
   .
   # Afb with RVR: several episodes of afib yesterday, currently in afib
   -got dig yesterday
   -prefer to not continue dig as will not be checking levels
   .
   #DIC: several days ago was oozing from everywhere and she was receiving
   cryo to keep fibrinogen above 125. Now improved.
   -no longer monitoring
   .
   #s/p LGIB: Has been hemodynamiclly stable
   - will not transfuse, will stop monitoring daily hct
   - nadolol for vericeal bleeding ppx d/c'ed bc of hypotension
   -continue IV PPI
   -Stop ordering type and screen (reordered this am)
   -continue cipro ppx for SBP
   .
   # Encephalopathy: Likely combination of hepatic encephalopathy and
   uremia, in conjunction with sedation.  Also possible infectious
   component, but she has been afebrile with no clear source.
   - recent cultures ngtd.
   - Cont lactulose and rifaximin
   .
   # vaginal/bottom yeast infection: miconazole
   #depression: holding citalopram for now in setting of somnolence.
   #FEN: continue tube feeds for now
    PPx: pneumoboots, PPI
    Access: IJ, temporary dialysis cath
   Code: DNR/DNI
   Contact: [**Name (NI) 322**] [**Name (NI) 7930**] (husband) [**Telephone/Fax (1) 7841**]- receiving regular
   updates, very involved.
    Dispo: ICU level of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-12**] 12:17 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-25**] 12:00 AM
   Arterial Line - [**2149-8-25**] 01:00 AM
   Dialysis Catheter - [**2149-8-27**] 06:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: